2113-11-25 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   CC: s/p esophageal stent placment admitted to [**Hospital Unit Name 10**] for respiratory
   distress
   .
   HPI: This is a 74 year old female with recently diagnosed gastric CA,
   s/p resection transfered from [**Hospital3 4838**] for esophageal
   stenting, now admitted to [**Hospital Unit Name 10**] after intubation for respiratory stress.
   The follow history is taken from [**Hospital1 **] and [**Hospital1 **] notes. The
   patient underwent EGD in [**2113-9-30**] for w/u anemia. She was found to
   have a gastric mass, poorly differentiated adenocarinoma. On [**11-1**], she
   underwent partial proximal gastrectomy and pylorplasty with J-tube
   placment. She was discharged home on [**11-9**] but returned to the ED later
   that day for hematemasis. EGD was done showing some clots in the
   stomach but no active bleeding. The follwing day she had another
   episode of hematemasis, was transfered to the ICU and electively
   intubated for airway protection.  She underwent repeat endoscopy which
   showed a small separtion in one portion of the esophagastric anatomosis
   with oozing. She then underwent exlap on [**11-11**] where a tear in the
   capusle of the spleen was found, but was not able to be repaired given
   concerns with disrupting the anastomosis. [**Female First Name (un) **] was controlled with
   thombin-soaked Gel foam, bleeding stopped. She then underwent an
   arteriogram showing a 6mm splnic pseuoaneurysm. She was transfussed
   multipe unitls during these few days, HCT around 26. She was on Zosyn
   and fluconazol 200mg IV daily.
   .
   She was transfered to [**Hospital1 **] SICU for treatment on the pseudoaneurysm.
   She was taken to IR for stenting of of splenic artery aneursym. She was
   weaned off the ventilator. However, she was noted to be on 3L NC duirng
   ambulance transport. Lasix was given. There was a question of vomiting
   enroute. She was then reintubated on [**11-18**] for respiratory distress and
   hypotension on [**11-18**]. She was diuresed for the following two days and
   then extubated on [**11-20**]. On [**11-20**], she underwent CT chest, which only
   showed moderate pleural effusions. On [**11-22**], she was switched from
   Zosyn to Cefepime.
   .
   During this time a CT abdomen, demonstrated perforation of the GE
   junction by the NG tube. NGT was pulled back and secured.Gastrografin
   swallow  on [**2113-11-23**] showed a contained anastomotic leak to the left of
   the remaining stomach measuring approx 6x3cm. She was then transfered
   to [**Hospital1 1**] for esophagastric stenting.
   .
   Here she underwent ERCP with placement of esophagastric metal 9cm x10mm
   stent proximal clipping. She stent placement was verified by a
   pediatric scope. She had been electively intubated prior to the
   procedure and was extubated post ERCP. Post proceedure, she was
   ordered125ml/hr NS; she likely received 400cc LR during the procedure.
   She then developed respiratory distress with respiratory rates in 40's,
   no documented hypoxia.  She was then reintubated in the PACU. She was
   given lasix 20mg IV in the PACU. She was transfered to the floor on AC
   500x 14, FI02 50%, PEEP 5.
   .
   ROS: unable to obtain
   .
   PMH:
   gastric CA s/p resection
   breast ca s/p mastectomy
   partial thyroidectomy for thyroid CA
   bladder CA s/p transurethral resection
   HTN
   Splenic artery aneurysm s/p stenting
   .
   Home Medications:
   Arimidex 1mg daily
   Diovan 80mg daily
   ASA 81mg daily
   Prilosec 20mg da day
   Carafate 1 gram per day
   Calcium
   Vit D
   Toprol Xl 50mg daily
   .
   Medications on Transfer:
   Albuterol
   Ipratropium
   Cefepime 1gram q12
   Fluconazole 200mg IV once a day
   Heparin 5000 units TID
   hydromorphine 0.6mg -1,g q2-4hrs PRN pain
   Reglan 5mg IV q 6hrs
   lopressor 75mg [**Hospital1 **]
   Zofran 5mg IV q 6hrs
   Percocet 5mg
   protonix 40mg q12hrs
   Insulin sliding scale
   Diovan 80mg qhs via j-tube
   ASA 81mg via J-tube
   .
   Allergies: Percocet, Tape
   .
   Social History: Married and lives with her husband, children live
   nearby, she is a former smoker of less than one pack per day, she
   drinks wine occaisonally
   .
   Family History: breast ca, sister with gastric CA, a sister with lung
   CA, CAD and COPD in various family members
   .
   Physical Exam:
   Vitals: T:99.4 P: 88 BP:138/61 R: 14 SaO2: 98& F102 50%
   General: intubated sedasted
   HEENT: MMM, no lesions noted in OP, no JVD
   Pulmonary: Lungs CTA bilaterally
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, hypoactive bowel sounds, midline healing incision
   with slight erythema but no edema or drainag, JP inplace with minimal
   serous fluid, J-tube in place with some yellow discharge but no edema
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Neurologic:
   -mental status: intubated sedate, occ opens eyes, moving her head and
   coughing but not moving extremities
   .
   Laboratory Data: see below
   .
   EKG [**Hospital1 **] [**11-6**]: sinus tachy at 106, left axis, deep TWI in
   V2-V3,  TWF in V4-V6, I, AVL, ? q waves in III, AVF, no ST elevations
   or depressions
   EKG [**Hospital1 1**]: TWI in V2-V6
   .
   Radiologic Data:
   - CXR [**Hospital1 1**]: pulmonary edema, small left sided efffusion
   - CXR [**11-24**] from [**Hospital1 **]: mild edema, left pleural effusion
   -CT abd w/ contrast [**11-20**]:
   1. extraluminal gas collection to the lefto the body of the somach, NG
   tubes through an area of surgical clips in the GE junction into this
   extraluminal gas collection, findings compatible with perforation at
   the GE junction
   2. retroperitoneal hematoma in the right anterio pararenal space
   3. J-tube in place
   - Bilateral LENI's [**11-20**]: no DVT avobe the knees
   - Gastrografin swallow [**2113-11-23**]:  contained anastomotic leak to the
   left of the remaining stomack measuring approx 6x3cm
   -  CT Chest [**11-20**]: no PE, bilateral moderal pleural effusion L>R
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-24**] 09:15 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2113-11-24**] 11:30 PM
   Pantoprazole (Protonix) - [**2113-11-25**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-11-25**] 06:00 AM
   Furosemide (Lasix) - [**2113-11-25**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-25**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.9
   HR: 93 (75 - 93) bpm
   BP: 81/48(56) {81/46(56) - 120/59(74)} mmHg
   RR: 21 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.8 kg (admission): 65 kg
             Total In:
                                                                    201 mL
                                                                    701 mL
   PO:
             TF:
   IVF:
                                                                    201 mL
                                                                    701 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                  1,230 mL
   Urine:
                                                                    505 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   10 mL
   Balance:
                                                                   -804 mL
                                                                   -529 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 196
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 99%
   ABG: ///24/
   Ve: 6.2 L/min
   Physical Examination
   General: intubated sedasted
   HEENT: MMM, no lesions noted in OP, no JVD
   Pulmonary: Lungs CTA bilaterally
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, hypoactive bowel sounds, midline healing incision
   with slight erythema but no edema or drainag, JP inplace with minimal
   serous fluid, J-tube in place with some yellow discharge but no edema
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Neurologic:
   -mental status: intubated sedate, occ opens eyes, moving her head and
   coughing but not moving extremities
   Labs / Radiology
   9.1 g/dL
   446 K/uL
   87 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   17 mg/dL
   105 mEq/L
   140 mEq/L
   28.6 %
   12.9 K/uL
        [image002.jpg]
                            [**2113-11-24**]  10:30 PM
                            [**2113-11-25**]  04:40 AM
   WBC
   12.6
   12.9
   Hct
   28.8
   28.6
   Plt
   465
   446
   Cr
   1.0
   1.1
   Glucose
   84
   87
   Other labs: PT / PTT / INR:13.7/26.7/1.2, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is a 74 year old female with recently diagnosed gastric CA, s/p
   resection transfered from [**Hospital3 4838**] for esophageal stenting,
   now admitted to [**Hospital Unit Name 10**] after intubation for respiratory stress.
   .
   # Respiratory distress: Characterized as tachypnea. This is the fourth
   time she has been intubated - 1) hematemasis 2) respiratory distress 3)
   for ERCP 4)respiratory distress. Per the family, she had significant
   anxiety on one extubation to the extent that she needed to be
   reintubated immediately [**2-13**] distress; she was anxious that her husband
   was not present. This level of anxiety may have resulted in
   reintubation today. However, there is also evidence of volume overload
   on CXR and given the rapidity with which she went into distress, she
   may have had flash pulmonary edema. No PNA, no sputum production, fever
   or leukocytosis. No hypoxia on ABG. Of note, she was sat'ing 98% on 3L
   NC prior to ERCP.
   - intubated, propofol and fentanyl
   - diurese with lasix 10mg IV, f/u UOP
   - nebs
   - [**Month (only) 202**] Fi02
   - RSBI and SBT in am
   - may need ativan peri-extubation and family at bedside
   - consider peri-extubation CPAP and nitro drip
   - echo for ? diastolic dsyfunction
   .
   # Anastamotic leak: s/p stenting
   - cefepime day 2, fluconazole
   .
   # S/p gastrectomy:
   - J-tube and tube feeds
   - fentanyl boluses for pain while intubated, but will transition back
   to percocet and dilauded
   .
   # TWI on EKG: same as prior
   - will not r/o
   .
   # HTN
   - cont metoprolol and diovan
   .
   #) Prophylaxis: PPI, sc heparin
   .
   #) FEN: TF, NPO
   .
   #) Access: PIVs, TLC, a-line
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-24**] 07:29 PM
   Multi Lumen - [**2113-11-24**] 07:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2113-11-25 09:59:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory distress requiring reintubation in
   PACU
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 y.o. woman with complicated GI history as per admission notes, to
   ERCP suite yesterday for stent placement in connection between
   esophagus and stomach.  Acute respiratory distress postextubation
   following the procedure, diuresed as she had received 2 L during the
   procedure.
   24 Hour Events:
 ARTERIAL LINE - START [**2113-11-24**] 07:29 PM
 MULTI LUMEN - START [**2113-11-24**] 07:30 PM
 EKG - At [**2113-11-24**] 09:30 PM
   Changed to PSV this morning
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-24**] 09:15 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2113-11-24**] 11:30 PM
   Pantoprazole (Protonix) - [**2113-11-25**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-11-25**] 06:00 AM
   Furosemide (Lasix) - [**2113-11-25**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-11-25**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 81 (75 - 93) bpm
   BP: 81/48(56) {81/46(56) - 120/59(74)} mmHg
   RR: 30 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.8 kg (admission): 65 kg
             Total In:
                                                                    201 mL
                                                                    784 mL
   PO:
             TF:
   IVF:
                                                                    201 mL
                                                                    744 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                  1,620 mL
   Urine:
                                                                    505 mL
                                                                  1,610 mL
   NG:
   Stool:
   Drains:
   10 mL
   Balance:
                                                                   -804 mL
                                                                   -836 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 196
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/45/116/24/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Bowel sounds present, staples in tact, J tube, JP
   drain n place
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   446 K/uL
   87 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   17 mg/dL
   105 mEq/L
   140 mEq/L
   28.6 %
   12.9 K/uL
        [image002.jpg]
                            [**2113-11-24**]  10:30 PM
                            [**2113-11-25**]  04:40 AM
   WBC
   12.6
   12.9
   Hct
   28.8
   28.6
   Plt
   465
   446
   Cr
   1.0
   1.1
   Glucose
   84
   87
   Other labs: PT / PTT / INR:13.7/26.7/1.2, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Imaging: CXR:  deep sulcus sign on left
   ECG: SR, T wave inversions laterally which are new
   Assessment and Plan
 ACUTE RESPIRATORY FAILURE:  Required immediate reintubation in PACU,
   no noted upper airway stridor so doubt laryngospasm. Did seem to be
   volume overloaded, had some ischemic changes on her ECG.  [**Month (only) 11**] be a
   component of volume overload and possible flash pulmonary edema. Still
   crackles on exam, CXR appears wet, can't rule out aspiration but no
   secretions from ETT.   Hypertensive this morning when sedation
   decreased.  Component of anxiety.  As we plan to diurese further
   increase propofol.  Consider IV TNG when anticipating extubation.
   Bronchodilators.
 HYPERTENSION, BENIGN:  Some component of anxiety.  Getting beta
   blocker and diavan.
 CARDIAC:  ECG changes in setting of acute decompenstion.  Cycling
   cardiac enzymes.  Repeat ECG this morning.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-24**] 07:29 PM
   Multi Lumen - [**2113-11-24**] 07:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2113-11-26 06:59:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2113-11-25**] 10:15 AM
 MULTI LUMEN - STOP [**2113-11-25**] 01:23 PM
   -EKG showed resolution of TWI in V5-V6
   -cardiac enzymes in a.m. negative
   -restarted home dose Diovan
   -gave labetalol 10 mg IV
   -gave IV lasix at 10:30 a.m. and 4 p.m., with good diuresis
   -got labetalol 100 mg PO
   -started nitrodrip with goal of extubating, but patient was not alert
   enough to extubate
   -central line pulled and tip sent for culture
   -gave Lasix at midnight and held tube feeds in anticipation of possible
   extubation in a.m.
   -gave labetalol 100 mg PO at 4:30 a.m.
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-25**] 07:45 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2113-11-25**] 03:15 PM
   Pantoprazole (Protonix) - [**2113-11-26**] 12:00 AM
   Furosemide (Lasix) - [**2113-11-26**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-11-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-26**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 78 (73 - 93) bpm
   BP: 132/66(82) {132/66(82) - 132/66(82)} mmHg
   RR: 21 (19 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.8 kg (admission): 65 kg
   Height: 64 Inch
             Total In:
                                                                  1,559 mL
                                                                    164 mL
   PO:
             TF:
                                                                     53 mL
   IVF:
                                                                  1,166 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  3,862 mL
                                                                    850 mL
   Urine:
                                                                  3,847 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
                                                                      5 mL
   Balance:
                                                                 -2,303 mL
                                                                   -686 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (262 - 446) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.44/46/98.[**Numeric Identifier 500**]/28/5
   Ve: 6.2 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General: intubated sedasted, but arousable to voice commands
   HEENT: MMM, no lesions noted in OP, no JVD
   Pulmonary: Lungs CTA bilaterally
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, hypoactive bowel sounds, midline healing incision
   with slight erythema but no edema or drainag, JP inplace with minimal
   serous fluid, J-tube in place with some yellow discharge but no edema
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Labs / Radiology
   464 K/uL
   9.4 g/dL
   88 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.8 mEq/L
   19 mg/dL
   99 mEq/L
   138 mEq/L
   28.9 %
   12.1 K/uL
        [image002.jpg]
                            [**2113-11-24**]  10:30 PM
                            [**2113-11-25**]  04:40 AM
                            [**2113-11-25**]  09:34 AM
                            [**2113-11-25**]  03:14 PM
                            [**2113-11-25**]  03:54 PM
                            [**2113-11-25**]  05:27 PM
                            [**2113-11-25**]  08:51 PM
                            [**2113-11-25**]  09:03 PM
                            [**2113-11-26**]  04:19 AM
                            [**2113-11-26**]  04:52 AM
   WBC
   12.6
   12.9
   12.1
   Hct
   28.8
   28.6
   28.9
   Plt
   465
   446
   464
   Cr
   1.0
   1.1
   1.1
   1.1
   TropT
   0.02
   0.02
   TCO2
   22
   30
   22
   30
   32
   Glucose
   84
   87
   76
   88
   Other labs: PT / PTT / INR:12.8/30.5/1.1, CK / CKMB /
   Troponin-T:14/2/0.02, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is a 74 year old female with recently diagnosed gastric CA, s/p
   resection transfered from [**Hospital3 4838**] for esophageal stenting,
   now admitted to [**Hospital Unit Name 10**] after intubation for respiratory stress.
   .
   # Respiratory distress: Failure to extubate secondary to anxiety vs.
   flash edema/ fluid overload vs. PNA/infectious process. The latter is
   less likely, but is poss. given mild Leukocytosis and low grade
   fevers.  CXR is still very wet, the pt. may need further diuresis.
   - Intubated, wean propofol and fentanyl
   - Wean sedation and FiO2
   -Another 10mg of IV Lasix, f/u UOP
   - F/u PM Lytes
   -F/u CXR after diuresis
   - nebs
   - may need ativan peri-extubation and family at bedside
   - consider peri-extubation nitro drip
   - echo to evaluate for diastolic dysfunction
   -Continue to follow fever curve, WBC counts.
   .
   # Anastamotic leak: s/p stenting
   - cefepime day 3, fluconazole
   .
   # S/p gastrectomy:
   - J-tube and tube feeds
   - fentanyl boluses for pain while intubated, but will transition back
   to percocet and dilauded
   .
   # TWI on EKG: unchanged from prior EKG
   - cycle CEs (add on to lab from this AM)
   -TTE to eval for diastolic dysfunction
   -Repeat EKG
   .
   # HTN
   - cont metoprolol and diovan
   .
   #) Prophylaxis: PPI, sc heparin
   .
   #) FEN: TF, NPO
   .
   #) Access: PIVs, TLC, a-line
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition: Tube feeds / NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-24**] 07:29 PM
   Multi Lumen - [**2113-11-24**] 07:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2113-11-26 08:48:00 Physician Attending Progress Note
Chief Complaint: acute respiratory failure post extubation in PACU
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2113-11-25**] 10:15 AM
 MULTI LUMEN - STOP [**2113-11-25**] 01:23 PM
   Paitent awake, notes breathing comfortable this am
   Diuresed overnight, started on home regimen of antihypertensives
   Tube feeds held since midnight
   History obtained from Patient
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-25**] 07:45 PM
   Infusions:
   Nitroglycerin - 0.2 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2113-11-25**] 03:15 PM
   Pantoprazole (Protonix) - [**2113-11-26**] 12:00 AM
   Furosemide (Lasix) - [**2113-11-26**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-11-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-11-26**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 77 (73 - 91) bpm
   BP: 132/66(82) {132/66(82) - 132/66(82)} mmHg
   RR: 28 (19 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 65 kg
   Height: 64 Inch
             Total In:
                                                                  1,559 mL
                                                                    231 mL
   PO:
             TF:
                                                                     53 mL
   IVF:
                                                                  1,166 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  3,862 mL
                                                                  1,095 mL
   Urine:
                                                                  3,847 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
                                                                      5 mL
   Balance:
                                                                 -2,303 mL
                                                                   -864 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (262 - 446) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: 7.44/46/98.[**Numeric Identifier 500**]/28/5
   Ve: 6.2 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : rare dependently)
   Abdominal: Soft, Non-tender, dressings clean and dry
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   464 K/uL
   88 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.8 mEq/L
   19 mg/dL
   99 mEq/L
   138 mEq/L
   28.9 %
   12.1 K/uL
        [image002.jpg]
                            [**2113-11-24**]  10:30 PM
                            [**2113-11-25**]  04:40 AM
                            [**2113-11-25**]  09:34 AM
                            [**2113-11-25**]  03:14 PM
                            [**2113-11-25**]  03:54 PM
                            [**2113-11-25**]  05:27 PM
                            [**2113-11-25**]  08:51 PM
                            [**2113-11-25**]  09:03 PM
                            [**2113-11-26**]  04:19 AM
                            [**2113-11-26**]  04:52 AM
   WBC
   12.6
   12.9
   12.1
   Hct
   28.8
   28.6
   28.9
   Plt
   465
   446
   464
   Cr
   1.0
   1.1
   1.1
   1.1
   TropT
   0.02
   0.02
   TCO2
   22
   30
   22
   30
   32
   Glucose
   84
   87
   76
   88
   Other labs: PT / PTT / INR:12.8/30.5/1.1, CK / CKMB /
   Troponin-T:14/2/0.02, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY FAILURE:  Shrotly after extubation in PACU had
   respiratory distress, reintubated. CXR looked wet.  [**Month (only) 11**] have had flash
   pulmonary edema given poorly controlled hypertension.  TW changes on
   ECG resolved, cardiac enzymes do not suggest ischemic event, probable
   demand ischemia.  Plan for lasix this morning, IV TNG to decrease
   preload. Anticipate extubation this morning.
 HYPERTENSION, BENIGN: Started on home meds - metoprolol and
   valsartin.
 ANASTAMOTIC LEAK:  Continues on cefipime and fluconazole.  Nutrition
   via J-tube.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-24**] 07:29 PM
   22 Gauge - [**2113-11-25**] 12:53 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2113-11-27 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events: This is a 74 year old female with recently diagnosed
   gastric CA, s/p resection transfered from [**Hospital3 4838**] for
   esophageal stenting, admitted to [**Hospital Unit Name 10**] after intubation for respiratory
   stress now extubated.
   - s/p extubation, doing well
   - lots of nausea, wrote for zofran and compazine
   - giving lasix 20mg IV x1
   - checking PM lytes
   - f/u GI recs
   - c/s surgery
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-26**] 08:55 AM
   Labetalol - [**2113-11-26**] 09:45 AM
   Pantoprazole (Protonix) - [**2113-11-27**] 12:00 AM
   Morphine Sulfate - [**2113-11-27**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-11-27**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-27**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 88 (77 - 94) bpm
   BP: 134/59(76) {112/59(76) - 158/89(101)} mmHg
   RR: 25 (17 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 65 kg
   Height: 64 Inch
             Total In:
                                                                    554 mL
                                                                    178 mL
   PO:
             TF:
   IVF:
                                                                    414 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    385 mL
   Urine:
                                                                  2,410 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
                                                                      5 mL
   Balance:
                                                                 -1,871 mL
                                                                   -207 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General: extuated, alert, responsive to commands
   Pulmonary: Lungs CTA bilaterally
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, hypoactive bowel sounds, midline healing incision
   with slight erythema but no edema or drainage, JP inplace with minimal
   serosangionous fluid, J-tube in place.
   Extremities: No C/C/E bilaterally, 2+ pulses.
   Labs / Radiology
   479 K/uL
   9.9 g/dL
   111 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   22 mg/dL
   99 mEq/L
   142 mEq/L
   30.8 %
   13.0 K/uL
        [image002.jpg]
                            [**2113-11-25**]  09:34 AM
                            [**2113-11-25**]  03:14 PM
                            [**2113-11-25**]  03:54 PM
                            [**2113-11-25**]  05:27 PM
                            [**2113-11-25**]  08:51 PM
                            [**2113-11-25**]  09:03 PM
                            [**2113-11-26**]  04:19 AM
                            [**2113-11-26**]  04:52 AM
                            [**2113-11-26**]  12:07 PM
                            [**2113-11-27**]  04:28 AM
   WBC
   12.1
   13.0
   Hct
   28.9
   30.8
   Plt
   464
   479
   Cr
   1.1
   1.1
   1.1
   1.0
   TropT
   0.02
   TCO2
   22
   30
   22
   30
   32
   Glucose
   76
   88
   92
   111
   Other labs: PT / PTT / INR:13.3/29.1/1.1, CK / CKMB /
   Troponin-T:14/2/0.02, Differential-Neuts:89.9 %, Lymph:6.1 %, Mono:3.7
   %, Eos:0.1 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 74 year old female with recently diagnosed gastric CA, s/p
   resection transfered from [**Hospital3 4838**] for esophageal stenting,
   now admitted to [**Hospital Unit Name 10**] after intubation for respiratory stress.
   .
   # Respiratory failure: Ready to extubate today.  Will need to watch out
   for pulmonary edema post-extubation.
   - extubate
   - nitroglycerin drip peri-extubation
   - lasix prior to extubation
   - nebs
   - trend fever curve, WBC counts
   .
   # Anastamotic leak: s/p stenting
   - cont. cefepime, fluconazole
   - surgery consult
   - f/u GI, surgery recs
   .
   # S/p gastrectomy:
   - J-tube and tube feeds
   - fentanyl boluses for pain while intubated, but will transition back
   to percocet and dilauded
   .
   # TWI on EKG: TWI in V5, V6 resolved on repeat EKG. Enzymes flat.
   .
   # HTN
   - cont metoprolol and diovan
   ICU Care
   Nutrition: Tube feeds / NPO
   Glycemic Control:
   Lines:
   PIV
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   Code status:
   Disposition:

2113-11-27 10:45:00 Physician Attending Progress Note
Chief Complaint: postoperative respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2113-11-26**] 09:40 AM
 ARTERIAL LINE - STOP [**2113-11-26**] 05:30 PM
   Continues extubated
   Diuresed
   Nausea, no associated ECG changes, improved with zofran/compazine
   1 mg morphine for pain overnight
   patient states she is tired
                                                   History obtained from Patient
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-11-27**] 12:00 AM
   Morphine Sulfate - [**2113-11-27**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2113-11-27**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Nausea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-11-27**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (97
   HR: 82 (80 - 94) bpm
   BP: 153/79(97) {122/59(76) - 158/89(101)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 65 kg
   Height: 64 Inch
             Total In:
                                                                    554 mL
                                                                    215 mL
   PO:
             TF:
   IVF:
                                                                    414 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    525 mL
   Urine:
                                                                  2,410 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
                                                                      5 mL
   Balance:
                                                                 -1,871 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : rare dependently)
   Abdominal: Soft, steristrips in tact, drain and J-tube in place
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   479 K/uL
   111 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   22 mg/dL
   99 mEq/L
   142 mEq/L
   30.8 %
   13.0 K/uL
        [image002.jpg]
                            [**2113-11-25**]  09:34 AM
                            [**2113-11-25**]  03:14 PM
                            [**2113-11-25**]  03:54 PM
                            [**2113-11-25**]  05:27 PM
                            [**2113-11-25**]  08:51 PM
                            [**2113-11-25**]  09:03 PM
                            [**2113-11-26**]  04:19 AM
                            [**2113-11-26**]  04:52 AM
                            [**2113-11-26**]  12:07 PM
                            [**2113-11-27**]  04:28 AM
   WBC
   12.1
   13.0
   Hct
   28.9
   30.8
   Plt
   464
   479
   Cr
   1.1
   1.1
   1.1
   1.0
   TropT
   0.02
   TCO2
   22
   30
   22
   30
   32
   Glucose
   76
   88
   92
   111
   Other labs: PT / PTT / INR:13.3/29.1/1.1, CK / CKMB /
   Troponin-T:14/2/0.02, Differential-Neuts:89.9 %, Lymph:6.1 %, Mono:3.7
   %, Eos:0.1 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY FAILURE:  Secondary to volume overload, possible
   component of flash pulmonary edema postoperatively given poorly
   controlled hypertension. Extubated yesterday following diuresis and
   doing well.
 HYPERTENSION, BENIGN:  Valsartan and metoprolol.  Still not well
   controlled, don't think there is a significant pain component
   contributing at this time.  Increase [**Last Name (un) 9344**].
 ANASTAMOTIC LEAK:  Continuing antibiotics and fluconazole.  Tube
   feeds held per surgery, need to followup with them to see when these
   can be restarted.  Surgery to touch base with surgeons at [**Hospital1 **] to
   see when transfer can be arranged.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2113-11-25**] 12:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2113-11-29 06:59:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -Pt VF arrest on the floor
   -Cardiology consult: recommend considering timing of cath based on
   clinical course
   -placed A-line
   -placed a right IJ
   -SBP dropped to high 60s
   -HCT dropped 33.5 -> 24.1 -> 19.8
   -pt given 5 units, 1 unit FFP, 1 bag platelets with repeat HCT  of
   blood with repeat HCT 33
   -pt taken to CT scanner and evidence of hematoma in abd below spleen
   (likely 2-3 units)
   -tagged red blood cell scan done showing bleed of the spleen
   -pt given multiple more units of blood, 1 unit of platelet
   -pt taken to IR for embolizatin of spleen
   -d/c'ed aspirin in the setting of active bleeding
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-29**] 06:45 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-28**] 02:05 PM
   Midazolam (Versed) - [**2113-11-29**] 01:15 AM
   Fentanyl - [**2113-11-29**] 01:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-29**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 109 (80 - 132) bpm
   BP: 109/62(79) {104/62(79) - 132/83(101)} mmHg
   RR: 18 (14 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68 kg (admission): 65 kg
   Height: 64 Inch
    Bladder pressure: 13 (13 - 16) mmHg
   Total In:
                                                                  6,260 mL
                                                                  3,298 mL
   PO:
   TF:
   IVF:
                                                                  2,806 mL
                                                                  2,397 mL
   Blood products:
                                                                  1,954 mL
                                                                    901 mL
   Total out:
                                                                    567 mL
                                                                     90 mL
   Urine:
                                                                    567 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  5,693 mL
                                                                  3,208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 400 (400 - 430) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.41/38/124/25/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General: intubated, sedasted
   HEENT: ETT in place
   Pulmonary: Lungs CTA bilaterally
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: Tense, markedly distended. Midline incision C/D/I, JP drain in
   place with sanguinous fluid, J-tube in place. Diffusely tender to
   palpation.
   Extremities: Clean dressing in place over right femoral artery puncture
   site with good pulse and no hematoma or bruit.  Left femoral central
   venous line in place. DP and PT pulses 2+ bilaterally. No cyanosis or
   edema.
   Skin: some mottling of skin on anterior thighs bilaterally
   Labs / Radiology
   208 K/uL
   11.8 g/dL
   138 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   28 mg/dL
   109 mEq/L
   139 mEq/L
   29
   17.5 K/uL
        [image002.jpg]
                            [**2113-11-28**]  10:57 AM
                            [**2113-11-28**]  04:03 PM
                            [**2113-11-28**]  05:00 PM
                            [**2113-11-28**]  06:00 PM
                            [**2113-11-28**]  08:38 PM
                            [**2113-11-28**]  08:45 PM
                            [**2113-11-28**]  11:00 PM
                            [**2113-11-29**]  01:43 AM
                            [**2113-11-29**]  03:06 AM
                            [**2113-11-29**]  05:08 AM
   WBC
   17.2
   13.8
   14.8
   17.5
   Hct
   24.1
   19.8
   33.0
   33.8
   30.7
   34
   29
   Plt
   [**Telephone/Fax (3) 9379**]08
   Cr
   1.2
   1.1
   1.2
   TropT
   0.03
   0.03
   TCO2
   34
   28
   26
   24
   25
   Glucose
   145
   161
   164
   149
   138
   Other labs: PT / PTT / INR:13.9/26.9/1.2, CK / CKMB /
   Troponin-T:67/3/0.03, ALT / AST:18/20, Alk Phos / T Bili:178/0.7,
   Differential-Neuts:85.6 %, Lymph:10.5 %, Mono:3.3 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, LDH:429 IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   74 year old female with recently diagnosed gastric CA, s/p resection
   transferred from [**Hospital3 4838**] for esophageal stenting, initially
   admitted to [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then
   extubated and called out to medical floor.  Readmitted to MICU s/p
   pulseless VT/VF arrest, then diagnosed with splenic laceration
   requiring massive transfusion and splenic artery embolization.
   .
   # Splenic artery laceration: s/p embolization by IR with recently
   stable Hcts. Patient had known old splenic laceration, but reason for
   re-bleed is unclear.  It is possible that the bleeding was exacerbated
   by CPR, but the patient had abdominal pain prior to her arrest,
   suggesting that the bleed could have begun before the arrest.
   -- f/u IR and surgery recommendations
   -- Check Hct Q4H
   -- Monitor vitals closely
   -- Transfuse for any drop in Hct
   -- Maintain active T+S with multiple units crossed
   .
   # s/p cardiac arrest -- now with return to sinus rhythm. No known
   cardiac history but echo with LV systolic dysfunction c/w CAD, so there
   is concern for an ischemic event as an etiology.
   -- Repeat EKG this a.m.
   -- Repeat echo
   -- Cycle enzymes
   -- f/u cardiology recs
   -- holding ASA in the setting of recent massive bleeding
   -- holding metoprolol in the setting of recent massive bleeding
   -- maintain K>4, Mg>2
   .
   # Pericardial effusion: Found on CT chest. Patient is s/p CPR.
   -- echocardiogram to further characterize and evaluate hemodynamic
   significance.
   .
   # Mechanical ventilation/Airway protection: Pt has now been intubated 5
   times (1) hematemasis 2) respiratory distress 3) for ERCP 4)respiratory
   distress following extubation 5) code blue/cardiac arrest with feeble
   respirations. Currently the patient is at high risk of aspiration given
   secretions in esophagus and requires airway protection.
   -- Most recent ABG shows good oxygenation and ventilation. Continue
   current vent settings
   .
   # Probable CAD
   [**Hospital **] medical management with statin.
   -- Hold ASA, BB, and [**Last Name (un) 284**] as above
   -- f/u cards c/s
   -- cycle enyzmes as above
   -- serial EKGs
   -- repeat echo as above
   .
   # CHF: No role for diuresis in setting of recent massive bleeding.
   .
   # Tachycardia: DDx includes hypovolemia ([**2-13**] hemorrhage), pain, sepsis.
   -- pull central venous line placed at outside hospital
   -- treat pain adequately
   -- low threshold for blood transfusion
   .
   # Acute renal failure: Likely [**2-13**] hypoperfusion in the setting of
   cardiac arrest and hemorrhage from splenic lac.
   -- monitor urine output and BP
   -- maintain renal perfusion
   .
   # Anastamotic leak: s/p stenting. Prior to the patient
s recent
   bleeding, the plan was for the patient to remain NPO, with feeds via
   J-tube. Currently patient has massively distended abdomen and fluid in
   esophagus.
   -- d/c antibiotics
   -- hold TFs given massive abdominal distending and fluid in esophagus
   .
   # S/p gastrectomy:
   -- holding tube feeds
   -- Pain meds prn
   -- f/u surgery recs
   .
   # Benign HTN:
   -- holding metoprolol and diovan
   ICU Care
   Nutrition: holding tube feeds, replete lytes aggressively to maintain
   K>4.0, Mg>2.0
   Glycemic Control:
   Lines:  Femoral line placed during code + new IJ; femoral line will
   need to be d/c
   Will need to place peripherals.
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: DNR
   Disposition: ICU

2113-11-29 09:39:00 Physician Attending Progress Note
Chief Complaint: hypotension, intra-abdominal hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2113-11-28**] 11:52 AM
   Put in during arrest
 EKG - At [**2113-11-28**] 04:30 PM
 BLOOD CULTURED - At [**2113-11-28**] 04:50 PM
   perpherial
 BLOOD CULTURED - At [**2113-11-28**] 05:12 PM
   from new RIJ
 ARTERIAL LINE - START [**2113-11-28**] 06:35 PM
 MULTI LUMEN - START [**2113-11-28**] 06:35 PM
 NUCLEAR MEDICINE - At [**2113-11-28**] 11:14 PM
   CT Chest/Abdomen CT without IV/oral contrast
   Transfused 8 u pRBCs, 2 units platelets, and 1 u FFP.
   Tagged red blood cell study localized bleeding to LUQ
   To IR for embolization of splenic artery
   Patient unable to provide history: Sedated
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-29**] 06:45 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-28**] 02:05 PM
   Midazolam (Versed) - [**2113-11-29**] 01:15 AM
   Fentanyl - [**2113-11-29**] 01:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2113-11-29**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 121 (80 - 132) bpm
   BP: 125/71(91) {104/62(79) - 132/83(101)} mmHg
   RR: 20 (14 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68 kg (admission): 65 kg
   Height: 64 Inch
   Bladder pressure: 13 (13 - 16) mmHg
   Total In:
                                                                  6,895 mL
                                                                  3,328 mL
   PO:
   TF:
   IVF:
                                                                  2,806 mL
                                                                  2,427 mL
   Blood products:
                                                                  2,589 mL
                                                                    901 mL
   Total out:
                                                                    567 mL
                                                                    225 mL
   Urine:
                                                                    567 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  6,328 mL
                                                                  3,103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 400 (400 - 430) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.39/39/81/22/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered, Diminished:
   bases)
   Abdominal: Distended, Tender: grimaces with light palpation diffusely
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, mottled
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   224 K/uL
   137 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.2 mEq/L
   30 mg/dL
   112 mEq/L
   145 mEq/L
   29.2 %
   17.6 K/uL
        [image002.jpg]
                            [**2113-11-28**]  05:00 PM
                            [**2113-11-28**]  06:00 PM
                            [**2113-11-28**]  08:38 PM
                            [**2113-11-28**]  08:45 PM
                            [**2113-11-28**]  11:00 PM
                            [**2113-11-29**]  01:43 AM
                            [**2113-11-29**]  03:06 AM
                            [**2113-11-29**]  05:08 AM
                            [**2113-11-29**]  06:23 AM
                            [**2113-11-29**]  07:01 AM
   WBC
   13.8
   14.8
   17.5
   17.6
   Hct
   19.8
   33.0
   33.8
   30.7
   34
   29
   29.2
   Plt
   381
   281
   208
   224
   Cr
   1.1
   1.2
   1.3
   TropT
   0.03
   TCO2
   28
   26
   24
   25
   24
   Glucose
   161
   164
   149
   138
   137
   Other labs: PT / PTT / INR:14.1/26.0/1.2, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:15/15, Alk Phos / T Bili:78/1.3,
   Differential-Neuts:85.6 %, Lymph:10.5 %, Mono:3.3 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:279 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 SPLENIC HEMORRHAGE:  Now s/p emoblization by IR, serial hcts this
   morning have been stable, last transfused around [**2-14**] am.
 ACUTE RENAL FAILURE:  Secondary to massive abdominal hemorrhage,
   hypotension, poor renal perfusion.  Making urine this am following
   aggressive volume resusitation with blood products and IV NS.  Cr
   slightly increased this morning. Anuric overnight up to 7 am, now
   making urine.
 CARDIAC ARREST:  [**Month (only) 11**] have been triggered by acute hemorrhage,
   possible ischemia in that setting, cardiac enzymes have been flat.
   Repeat ECG this morning.  ASA on hold.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Remains intubated and
   sedated in setting of abdominal bleed.  Now component of volume
   overload.
 LEUKOCYTOSIS:  [**Month (only) 11**] be stress related in setting of acute events, was
   pancultured.  Will not broaden antibacterial/antifungal therapy at this
   point albeit can reconsider if she is at all hemodynamically unstable.
 HYPERTENSION, BENIGN:  Holding antihypertenisve.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2113-11-30 07:26:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2113-11-29**] 10:00 AM
   Put in during arrest
   - HCT dropped to 26 from 28.9 gave 2u PRBC, still tachycardic,
   hypotensive- next HCT 33.8 after xfusion, IR aware needs very very
   intense decomp for intervention (given previous contrast bolus and
   complete embo splenic artery
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-30**] 05:45 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2113-11-29**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-30**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 102 (101 - 134) bpm
   BP: 129/68(90) {86/52(64) - 151/86(109)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68 kg (admission): 65 kg
   Height: 64 Inch
             Total In:
                                                                  5,534 mL
                                                                    197 mL
   PO:
             TF:
   IVF:
                                                                  3,893 mL
                                                                    197 mL
   Blood products:
                                                                  1,601 mL
   Total out:
                                                                    499 mL
                                                                    140 mL
   Urine:
                                                                    409 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  5,035 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 133
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: ///21/
   Ve: 8.3 L/min
   Physical Examination
   General: intubated, sedated, follows commands
   HEENT: ETT in place
   Pulmonary: decreased
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: Tense, markedly distended. Midline incision C/D/I, JP drain in
   place with sanguinous fluid, J-tube in place. Diffusely tender to
   palpation.
   Extremities: Clean dressing in place over right femoral artery puncture
   site with good pulse and no hematoma or bruit.  Left femoral central
   venous line in place. DP and PT pulses 2+ bilaterally. No cyanosis or
   edema.
   Skin: some mottling of skin on anterior thighs bilaterally
   Labs / Radiology
   184 K/uL
   10.8 g/dL
   107 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.2 mEq/L
   36 mg/dL
   115 mEq/L
   146 mEq/L
   31.5 %
   22.2 K/uL
        [image002.jpg]
                            [**2113-11-29**]  03:06 AM
                            [**2113-11-29**]  05:08 AM
                            [**2113-11-29**]  06:23 AM
                            [**2113-11-29**]  07:01 AM
                            [**2113-11-29**]  09:04 AM
                            [**2113-11-29**]  12:00 PM
                            [**2113-11-29**]  12:59 PM
                            [**2113-11-29**]  04:38 PM
                            [**2113-11-29**]  08:57 PM
                            [**2113-11-30**]  03:08 AM
   WBC
   17.6
   22.2
   Hct
   34
   29
   29.2
   28.9
   26.7
   33.8
   33.2
   31.5
   Plt
   224
   184
   Cr
   1.3
   1.3
   1.4
   TropT
   0.03
   TCO2
   24
   25
   24
   Glucose
   149
   138
   137
   149
   141
   107
   Other labs: PT / PTT / INR:16.2/28.8/1.4, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:16/15, Alk Phos / T Bili:89/0.8,
   Differential-Neuts:85.6 %, Lymph:10.5 %, Mono:3.3 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:304 IU/L, Ca++:8.0 mg/dL,
   Mg++:3.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   74 year old female with recently diagnosed gastric CA, s/p resection
   transferred from [**Hospital3 4838**] for esophageal stenting, initially
   admitted to [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then
   extubated and called out to medical floor.  Readmitted to MICU s/p
   pulseless VT/VF arrest, then diagnosed with splenic laceration
   requiring massive transfusion and splenic artery embolization.
   .
   # Splenic artery laceration: s/p embolization by IR with recently
   stable Hcts. Patient had known old splenic laceration, but reason for
   re-bleed is unclear.  It is possible that the bleeding was exacerbated
   by CPR, but the patient had abdominal pain prior to her arrest,
   suggesting that the bleed could have begun before the arrest.
   -- f/u IR and surgery recommendations
   -- Check Hct Q4H
   -- Monitor vitals closely
   -- Transfuse for any drop in Hct
   -- Maintain active T+S with multiple units crossed
   .
   # s/p cardiac arrest -- now with return to sinus rhythm. No known
   cardiac history but echo with LV systolic dysfunction c/w CAD, so there
   is concern for an ischemic event as an etiology.
   -- Repeat EKG this a.m.
   -- Repeat echo
   -- Cycle enzymes
   -- f/u cardiology recs
   -- holding ASA in the setting of recent massive bleeding
   -- holding metoprolol in the setting of recent massive bleeding
   -- maintain K>4, Mg>2
   .
   # Pericardial effusion: Found on CT chest. Patient is s/p CPR.
   -- echocardiogram to further characterize and evaluate hemodynamic
   significance.
   .
   # Mechanical ventilation/Airway protection: Pt has now been intubated 5
   times (1) hematemasis 2) respiratory distress 3) for ERCP 4)respiratory
   distress following extubation 5) code blue/cardiac arrest with feeble
   respirations. Currently the patient is at high risk of aspiration given
   secretions in esophagus and requires airway protection.
   -- Most recent ABG shows good oxygenation and ventilation. Continue
   current vent settings
   .
   # Probable CAD
   [**Hospital **] medical management with statin.
   -- Hold ASA, BB, and [**Last Name (un) 284**] as above
   -- f/u cards c/s
   -- cycle enyzmes as above
   -- serial EKGs
   -- repeat echo as above
   .
   # CHF: No role for diuresis in setting of recent massive bleeding.
   .
   # Tachycardia: DDx includes hypovolemia ([**2-13**] hemorrhage), pain, sepsis.
   -- pull central venous line placed at outside hospital
   -- treat pain adequately
   -- low threshold for blood transfusion
   .
   # Acute renal failure: Likely [**2-13**] hypoperfusion in the setting of
   cardiac arrest and hemorrhage from splenic lac.
   -- monitor urine output and BP
   -- maintain renal perfusion
   .
   # Anastamotic leak: s/p stenting. Prior to the patient
s recent
   bleeding, the plan was for the patient to remain NPO, with feeds via
   J-tube. Currently patient has massively distended abdomen and fluid in
   esophagus.
   -- d/c antibiotics
   -- hold TFs given massive abdominal distending and fluid in esophagus
   .
   # S/p gastrectomy:
   -- holding tube feeds
   -- Pain meds prn
   -- f/u surgery recs
   .
   # Benign HTN:
   -- holding metoprolol and diovan
   ICU Care
   Nutrition: holding tube feeds, replete lytes aggressively to maintain
   K>4.0, Mg>2.0
   Glycemic Control:
   Lines:  Femoral line placed during code + new IJ; femoral line will
   need to be d/c
   Will need to place peripherals.
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: DNR
   Disposition: ICU

2113-11-30 09:56:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, splenic hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2113-11-29**] 10:00 AM
   Put in during arrest
   Transfused 2 u pRBCs for hct 26
   Hemodaynamically stable overnight
   Changes to PSV 12/5 PEEP
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-11-30**] 05:45 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2113-11-29**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-30**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 102 (101 - 134) bpm
   BP: 127/67(89) {86/52(64) - 151/86(109)} mmHg
   RR: 18 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68 kg (admission): 65 kg
   Height: 64 Inch
             Total In:
                                                                  5,534 mL
                                                                    347 mL
   PO:
             TF:
   IVF:
                                                                  3,893 mL
                                                                    287 mL
   Blood products:
                                                                  1,601 mL
   Total out:
                                                                    499 mL
                                                                    175 mL
   Urine:
                                                                    409 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  5,035 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 417 (417 - 417) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 133
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: ///21/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently,
   Diminished: bases)
   Abdominal: Distended, a bit softer, still grimaces to palpation
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, no longer mottled
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, opens eyes to voice
   Labs / Radiology
   10.8 g/dL
   184 K/uL
   107 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.2 mEq/L
   36 mg/dL
   115 mEq/L
   146 mEq/L
   31.5 %
   22.2 K/uL
        [image002.jpg]
                            [**2113-11-29**]  03:06 AM
                            [**2113-11-29**]  05:08 AM
                            [**2113-11-29**]  06:23 AM
                            [**2113-11-29**]  07:01 AM
                            [**2113-11-29**]  09:04 AM
                            [**2113-11-29**]  12:00 PM
                            [**2113-11-29**]  12:59 PM
                            [**2113-11-29**]  04:38 PM
                            [**2113-11-29**]  08:57 PM
                            [**2113-11-30**]  03:08 AM
   WBC
   17.6
   22.2
   Hct
   34
   29
   29.2
   28.9
   26.7
   33.8
   33.2
   31.5
   Plt
   224
   184
   Cr
   1.3
   1.3
   1.4
   TropT
   0.03
   TCO2
   24
   25
   24
   Glucose
   149
   138
   137
   149
   141
   107
   Other labs: PT / PTT / INR:16.2/28.8/1.4, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:16/15, Alk Phos / T Bili:89/0.8,
   Differential-Neuts:85.6 %, Lymph:10.5 %, Mono:3.3 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:304 IU/L, Ca++:8.0 mg/dL,
   Mg++:3.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):
   Splenic hemorrhage s/p IR intervention.  Last transfused last night.
   Hct stable today, BP stable.  Following serial CBCs.
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK): Secondary to
   hemorrhage as above. Has been intravascularly volume repleted with
   blood products.
 CARDIAC ARREST:  PVCs on the monitor. Following electrolytes and
   repleting as needed.  Restart beta blocker.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]): Still component of volume
   overload.  Now that she is hemodaynamically stable will diurese.
   Lighten sedation.  Continue PSV.  Will reassess this afternoon
   regarding possibility of extubation.
 CONGESTIVE HEART FAILURE:  Main factor limiting her from coming off
   the vent.
 LEUKOCYTOSIS:  [**Month (only) 11**] be stress related in setting of massive hemorrhage
   but also need to consider infection.  Will send blood, urine cultures.
   If this continues to increase and she has fevers consider abdominal CT
   scan as the splen bleed/thrombus may become infected. Continue current
   antibiotics/antifungal therapy.
 ACUTE RENAL FAILURE: Cr increased, probable ATN secondary to bleed,
   hypotension, hypoperfusion and she did received some contrast in IR.
   Examine urine sediment, urine lytes prior to lasix, check bladder
   pressure.
 HYPERNATREMIA:  Repeat labs this afternoon, consider free water
   replacement.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2113-12-01 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2113-11-30**]
   -Had bladder pressure 26, repeat 24.  Evaluated by gen surgery, no
   surgical intervention at this point.  Recommened continuing to monitor
   PIP, bladder pressures.  Continues to have good UOP.
   -Diuresing well; -2.2 liters negatuve by morning.
   -Renal U/S unremarkable.
   -Had an episode of emesis after tube feeds started; tube feeds held.
   Had another small emesis episode O/N.
   -Hct down to 27.6 in AM, but repeat Hct was stable at 28.0
   -K down to 3.6 this AM, so repleted  with 60 mEq of K via central line
   -Did not tolerate PS 10/5 today due to tachypnea and tachycardia.
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-12-1**] 05:44 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-30**] 04:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-1**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 114 (79 - 114) bpm
   BP: 138/67(93) {113/57(78) - 148/79(106)} mmHg
   RR: 28 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68 kg (admission): 65 kg
   Height: 64 Inch
    Bladder pressure: 18 (18 - 26) mmHg
   Total In:
                                                                    720 mL
                                                                    235 mL
   PO:
   TF:
                                                                     15 mL
   IVF:
                                                                    525 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                  1,135 mL
   Urine:
                                                                  2,085 mL
                                                                  1,120 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
                                                                     30 mL
                                                                     15 mL
   Balance:
                                                                 -1,425 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 453 (349 - 465) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.42/36/94.[**Numeric Identifier 433**]/24/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General: intubated, sedated, follows commands
   HEENT: ETT in place
   Pulmonary: decreased breath sounds at bases bilaterally, especially on
   left
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: Tense, markedly distended (although tenderness minimally
   improved relative to yesterday). Midline incision C/D/I, JP drain in
   place with sanguinous fluid, J-tube in place. Diffusely tender to
   palpation.
   Extremities: Clean dressing in place over right femoral artery puncture
   site with good pulse and no hematoma.  Clean dressing in place over
   left central venous catheter site. DP and PT pulses 2+ bilaterally. 1+
   bilateral LE edema.
   Labs / Radiology
   183 K/uL
   9.6 g/dL
   84 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   42 mg/dL
   113 mEq/L
   147 mEq/L
   27.6 %
   21.6 K/uL
        [image002.jpg]
                            [**2113-11-29**]  12:59 PM
                            [**2113-11-29**]  04:38 PM
                            [**2113-11-29**]  08:57 PM
                            [**2113-11-30**]  03:08 AM
                            [**2113-11-30**]  10:03 AM
                            [**2113-11-30**]  10:49 AM
                            [**2113-11-30**]  03:16 PM
                            [**2113-11-30**]  09:09 PM
                            [**2113-12-1**]  03:01 AM
                            [**2113-12-1**]  04:07 AM
   WBC
   22.2
   21.6
   Hct
   26.7
   33.8
   33.2
   31.5
   30.9
   29.6
   30.1
   27.6
   Plt
   184
   183
   Cr
   1.3
   1.4
   1.6
   1.7
   TCO2
   25
   24
   Glucose
   141
   107
   91
   84
   Other labs: PT / PTT / INR:17.0/33.6/1.5, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:88.0 %, Band:5.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:8.4
   mg/dL, Mg++:2.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   74 year old female with recently diagnosed gastric CA, s/p resection,
   transferred from [**Hospital3 4838**] for esophageal stenting, initially
   admitted to [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then
   extubated and called out to medical floor.  Readmitted to MICU s/p
   pulseless VT/VF arrest, then diagnosed with splenic laceration
   requiring massive transfusion and splenic artery embolization.
   .
   # Respiratory failure: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations. Currently, the patient continues to be volume-overloaded
   on physical exam and CXR and would likely not tolerate extubation
   without further diruesis.
   - Diurese with goal net negative 2L today
   - Check lytes tid and replete for K>4, Mg > 2
   -Continue mechanical ventilation
   .
   # Splenic artery laceration s/p embolization by IR: Hct appears stable
   at this point.
   -- f/u IR and surgery recommendations
   -- Check Hct Q8H
   -- Transfuse for Hct<26
   -- Maintain active T+S with multiple units crossed
   -- Consider repeat tagged RBC scan if Hct continues to trend down
   .
   # s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD, so there is concern for an
   ischemic event as an etiology.
   -- Monitor on telemetry: frequent ectopy but no other events
   -- f/u cardiology recs
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- continue metoprolol
   -- continue atorvastatin
   -- maintain K>4, Mg>2
   .
   # Pericardial effusion: Found on CT chest. Patient is s/p CPR.
   -- Echocardiogram shows fat pad but not effusion
   .
   # CHF: Volume overload
   -- Diurese slowly with goal net negative 2L today
   .
   # Leukocytosis: WBC stable at 21.6 today.  Latest differential from
   yesterday  shows 88 neutrophils and 5 bands.  The patient continues to
   be afebrile with no localized evidence of infectious process, although
   abdomen is the most likely source.
   -- F/u Blood and Urine cultures
   -- continue antibiotics (cefepime and fluconazole), consider adding
   gram positive coverage pending culture results
   --Will hold off on CT a/p for now
   .
   # Acute renal failure: Differential diagnosis includes ATN,
   obstruction, intraabdominal compartment syndrome.  Kidney U/S
   unremarkable.
   -- Send urine Eos
   -- monitor urine output
   -- maintain renal perfusion
   -- continuing to check bladder pressures
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds yesterday.
   -- Add IV Reglan for vomiting
   -- hold tube feeding for now
   -- f/u GI and surgery recs
   -- pain meds PRN
   .
   # HTN:
   -- continue metoprolol
   -- holding Diovan in setting of ARF and recent bleeding
   .
   # h/o breast CA
   -- continue Arimidex
   ICU Care
   Nutrition: NPO, hold tube feeds, replete lytes aggressively to maintain
   K>4.0, Mg>2.0
   Glycemic Control: insulin SC
   Lines:
   Interval jugular CVL
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: DNR
   Disposition: ICU

2113-12-01 09:19:00 Physician Attending Progress Note
Chief Complaint: splenic hemmorhage, respiratory faiulure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2113-11-30**] 10:00 AM
 URINE CULTURE - At [**2113-11-30**] 10:00 AM
 BLOOD CULTURED - At [**2113-11-30**] 12:24 PM
 EKG - At [**2113-12-1**] 06:15 AM
   No further transfusions overnight
   Bladder pressures 24-26, surgical evaluation did not feel need for
   operative intervention. Bladder pressure down to 18 this morning.
   Diuresed on lasix drip, 2.2 L negative fluid balance
   Tube feeds started, two small episodes of emesis looked like tube
   feeds, no blood/coffee grounds.  No obvious aspiration in this
   setting.
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-12-1**] 05:44 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-30**] 04:05 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Pain: [**3-15**] Mild
   Pain location: with palpation of abdomen
   Flowsheet Data as of  [**2113-12-1**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 95 (79 - 114) bpm
   BP: 151/77(104) {113/57(78) - 151/79(106)} mmHg
   RR: 23 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
   Bladder pressure: 16 (16 - 26) mmHg
   Total In:
                                                                    720 mL
                                                                    337 mL
   PO:
   TF:
                                                                     15 mL
   IVF:
                                                                    525 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                  1,255 mL
   Urine:
                                                                  2,085 mL
                                                                  1,240 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
                                                                     30 mL
                                                                     15 mL
   Balance:
                                                                 -1,425 mL
                                                                   -918 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 328 (328 - 465) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 234
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.42/36/94/24/0
   Ve: 8 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently)
   Abdominal: Non-tender, Distended, Tender: grimaces with palpation
   diffusely, abdomen slightly more distended this morning
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, RUE > LUE
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   183 K/uL
   84 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   42 mg/dL
   113 mEq/L
   147 mEq/L
   28.0 %
   21.6 K/uL
        [image002.jpg]
                            [**2113-11-29**]  04:38 PM
                            [**2113-11-29**]  08:57 PM
                            [**2113-11-30**]  03:08 AM
                            [**2113-11-30**]  10:03 AM
                            [**2113-11-30**]  10:49 AM
                            [**2113-11-30**]  03:16 PM
                            [**2113-11-30**]  09:09 PM
                            [**2113-12-1**]  03:01 AM
                            [**2113-12-1**]  04:07 AM
                            [**2113-12-1**]  07:05 AM
   WBC
   22.2
   21.6
   Hct
   33.8
   33.2
   31.5
   30.9
   29.6
   30.1
   27.6
   28.0
   Plt
   184
   183
   Cr
   1.4
   1.6
   1.7
   TCO2
   25
   24
   Glucose
   107
   91
   84
   Other labs: PT / PTT / INR:17.0/33.6/1.5, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:88.0 %, Band:5.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:8.4
   mg/dL, Mg++:2.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):  Hct
   has stablized following IR intervention to splenic artery.  Bladder
   pressures elevated overnight, now down to 18.  Appreciate surgical
   evaluation overnight.  If hct decreases consider repeat abdominal CT
   and/or tagged RBC scan.  INR 1.5 today, will give vitamin K.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Continues to be volume
   overloaded, requires further diuresis.  Replete electrolytes as
   needed.
 ACUTE RENAL FAILURE:  Likely secondary to hypoperfusion in setting of
   abdominal hemmorhage and dye load in IR procedure.  Renal US
   unremarkable.  Dosing meds accordingly.  Good reponse to lasix despite
   rising Cr.  Check urine eosinophils.
 CARDIAC:  Back on the beta blocker.  Repeat echo not significantly
   changed.
 LEUKOCYTOSIS:  Continues with only low grade fevers.  Level stable to
   slightly down this morning.  No change in antibiotics/antifungal
   therapy at this time.  Low threshold to broaden if she is clinically
   unstable.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2113-12-02 07:42:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9291**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -Changed cefepime to 1 gm IV Q24H
   -Added metoclopramide PRN nausea
   -Gave vitamin K 2 mg IV
   -Discontinued tube feeds
   -Had lots of ectopy -> gave metoprolol 2.5 mg IV x 2
   -Got very agitated, uncomfortable (RR in 40s) in setting of decreased
   sedation -> started propofol
   Allergies:
   Adhesive Tape (Topical) itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen) itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-12-2**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole- [**2113-12-1**] 08:32 AM
   Metoprolol - [**2113-12-2**] 01:16 AM
   Midazolam11/21/[**2113**] 01:50 AM
   Fentanyl - [**2113-12-2**] 01:50 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-2**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 82 (82 - 102) bpm
   BP: 123/61(83) {108/55(75) - 169/90(121)} mmHg
   RR: 20 (12 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 13 (3 - 13)mmHg
   Bladder pressure: 18 (16 - 18) mmHg
   Total In:
                                                                    801 mL
                                                                    356 mL
   PO:
   TF:
   IVF:
                                                                    681 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  2,760 mL
                                                                    515 mL
   Urine:
                                                                  2,745 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
   Balance:
                                                                 -1,959 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (328 - 467) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 234
   RSBI Deferred: Hemodynamic Instability
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.40/38/86.[**Numeric Identifier **]/22/0
   Ve: 7 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General: intubated, sedated, not opening eyes to voice or following
   commands
   HEENT: ETT in place
   Pulmonary: decreased breath sounds at bases bilaterally, especially on
   left but no crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: Tense, markedly distended (although tenderness minimally
   improved relative to yesterday) although softer than  yesterday
s exam.
   Midline incision C/D/I, JP drain in place with sanguinous fluid, J-tube
   in place. Diffusely tender to palpation.
   Extremities: Clean dressing in place over right femoral artery puncture
   site with good pulse and no hematoma.  Clean dressing in place over
   left central venous catheter site. DP and PT pulses 2+ bilaterally. 1+
   bilateral LE edema but improved from prior exam. B/L hand edema
   markedly improved
   Labs / Radiology
   202 K/uL
   9.2 g/dL
   75 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.6 mEq/L
   40 mg/dL
   114 mEq/L
   148 mEq/L
   27.4 %
   19.0 K/uL
        [image002.jpg]
                            [**2113-11-30**]  09:09 PM
                            [**2113-12-1**]  03:01 AM
                            [**2113-12-1**]  04:07 AM
                            [**2113-12-1**]  07:05 AM
                            [**2113-12-1**]  03:04 PM
                            [**2113-12-1**]  04:45 PM
                            [**2113-12-1**]  09:32 PM
                            [**2113-12-2**]  12:36 AM
                            [**2113-12-2**]  02:06 AM
                            [**2113-12-2**]  05:46 AM
   WBC
   21.6
   19.0
   Hct
   30.1
   27.6
   28.0
   27.6
   27.9
   27.7
   27.4
   Plt
   183
   202
   Cr
   1.7
   1.7
   1.6
   1.7
   TCO2
   24
   25
   24
   Glucose
   84
   79
   76
   75
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:88.0 %, Band:5.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:7.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 yo F w/ recently dx gastric adeno CA, s/p resection, transferred
   from [**Hospital3 4838**] for esophageal stenting, initially admitted to
   [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then extubated and
   called out to medical floor.  Readmitted to MICU s/p pulseless VT/VF
   arrest, then dx w/ splenic laceration requiring massive transfusion and
   splenic artery embolization.
   .
   1. RESPIRATORY FAILURE: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations. Currently, pt is 2 L negative O/N with marked improvement
   in exam and CXR (improvement of b/l LE and UE (hand) edema and
   relatively clear respiratory exam)
   - Diurese with goal net negative 0.5 to 1.0 L today
   - Check lytes tid and replete for K>4, Mg > 2
   -Continue mechanical ventilation, try PS 5/5
   - ct wean sedation (propofol)
   .
   2.  Splenic artery laceration s/p embolization by IR: Hct appears
   stable at this point.
   -- f/u IR and surgery recommendations
   -- can start checking HCT [**Hospital1 **]
   -- Transfuse for Hct<26
   -- Maintain active T+S with multiple units crossed
   -- Consider repeat tagged RBC scan if Hct continues to trend down
   3. HYPERNATREMIA- due to free water deficit. Will give 1L D5W
   maintenance
   .
   4. s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD, so there is concern for an
   ischemic event as an etiology.
   -- Monitor on telemetry: frequent ectopy but no other events, if ectopy
   give metoprolol IV.
   -- f/u cardiology recs
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- continue metoprolol
   -- continue atorvastatin
   -- maintain K>4, Mg>2
   .
   5. Leukocytosis: WBC improved to 19.0 from 21.6 .  The patient
   continues to be afebrile with no localized evidence of infectious
   process, although abdomen is the most likely source.
   -- F/u Blood and Urine cultures
   -- continue antibiotics (cefepime and fluconazole), consider adding
   gram positive coverage pending culture results
   --Will hold off on CT a/p for now
   .
   6. Acute renal failure: Differential diagnosis includes ATN from
   hypoperfusion during hypotensive episodes, obstruction, intraabdominal
   compartment syndrome.  Kidney U/S unremarkable.
   -- Send urine Eos
   -- monitor urine output
   -- maintain renal perfusion
   -- continuing to check bladder pressures
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds yesterday.
   -- Add IV Reglan for vomiting
   -- hold tube feeding for now
   -- f/u GI and surgery recs
   -- pain meds PRN
   .
   # HTN:
   -- continue metoprolol
   -- holding Diovan in setting of ARF and recent bleeding
   .
   # h/o breast CA
   -- continue Arimidex
   ICU Care
   Nutrition: NPO, hold tube feeds, replete lytes aggressively to maintain
   K>4.0, Mg>2.0 consider TPN
   Glycemic Control: insulin SC
   Lines:
   Interval jugular CVL
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: DNR
   Disposition: ICU

2113-12-02 07:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Non-sustained VT
 started on metoprolol
   Hct stable
   New low-grade fever
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-12-2**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-1**] 08:32 AM
   Metoprolol - [**2113-12-2**] 01:16 AM
   Midazolam (Versed) - [**2113-12-2**] 01:50 AM
   Fentanyl - [**2113-12-2**] 01:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-2**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 83 (82 - 102) bpm
   BP: 130/63(87) {108/55(75) - 169/90(121)} mmHg
   RR: 20 (12 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 14 (3 - 14)mmHg
   Bladder pressure: 18 (16 - 18) mmHg
   Total In:
                                                                    801 mL
                                                                    361 mL
   PO:
   TF:
   IVF:
                                                                    681 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  2,760 mL
                                                                    515 mL
   Urine:
                                                                  2,745 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
   Balance:
                                                                 -1,959 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (328 - 467) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 234
   RSBI Deferred: Hemodynamic Instability
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.40/38/86
   Ve: 7 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Intubated, sedated, non-responsive
   Neck RIJ
   Hrt RRR
   Lungs clear anteriorly
   Abd remains distended though improved,
   Extrem trace edema
   Labs / Radiology
   9.2 g/dL
   202 K/uL
   75 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.6 mEq/L
   40 mg/dL
   114 mEq/L
   148 mEq/L
   27.4 %
   19.0 K/uL
        [image002.jpg]
                            [**2113-11-30**]  09:09 PM
                            [**2113-12-1**]  03:01 AM
                            [**2113-12-1**]  04:07 AM
                            [**2113-12-1**]  07:05 AM
                            [**2113-12-1**]  03:04 PM
                            [**2113-12-1**]  04:45 PM
                            [**2113-12-1**]  09:32 PM
                            [**2113-12-2**]  12:36 AM
                            [**2113-12-2**]  02:06 AM
                            [**2113-12-2**]  05:46 AM
   WBC
   21.6
   19.0
   Hct
   30.1
   27.6
   28.0
   27.6
   27.9
   27.7
   27.4
   Plt
   183
   202
   Cr
   1.7
   1.7
   1.6
   1.7
   TCO2
   24
   25
   24
   Glucose
   84
   79
   76
   75
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:88.0 %, Band:5.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:7.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   CXR inproved bilateral infiltrates, likely atelectasis versus effusion
   left base
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS from spleen
 follow Hct, JP
   output
   Fever
 on abx, micro eval pending
 CARDIAC ARREST, ventricular ectopy
 continue metoprolol
 RESPIRATORY FAILURE
 improved, cont to diurese
   ARF
 stable
   Anastomosis leak
 on abx, stent in place
   Nutrition
 holding TFs for now, reassess in AM
   Nutrition: Regular diet and PO home meds; replete lytes PRN
   Glycemic Control:
   Lines: 2 peripherals
   18 Gauge - [**2113-11-22**] 11:17 PM
   20 Gauge - [**2113-11-22**] 11:18 PM
   MIDLINE
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 129**] status: full
   Disposition: ICU for now, screen for LTAC
   ICU Care
   Nutrition: restart TFs with pro-kinetics once extubated
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :  icu
   Total time spent: 38

2113-12-03 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Stable, no ectopy on Telemetry
   -Hypernatremia
D5W given with improvement
   On Propofol for sedation?
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2113-12-3**] 01:46 AM
   Cefipime - [**2113-12-3**] 06:27 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-2**] 08:03 AM
   Fentanyl - [**2113-12-2**] 07:51 PM
   Propofol - [**2113-12-2**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-3**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 87 (73 - 95) bpm
   BP: 132/65(88) {109/50(71) - 164/79(111)} mmHg
   RR: 18 (17 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 11 (4 - 16)mmHg
   Total In:
                                                                  2,163 mL
                                                                    376 mL
   PO:
   TF:
   IVF:
                                                                  1,963 mL
                                                                    376 mL
   Blood products:
   Total out:
                                                                  3,370 mL
                                                                  1,520 mL
   Urine:
                                                                  3,350 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                 -1,207 mL
                                                                 -1,144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 393 (302 - 394) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 153
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.46/38/87.[**Numeric Identifier 274**]/26/2
   Ve: 8.4 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General: intubated, sedated, not opening eyes to voice or following
   commands
   HEENT: ETT in place
   Pulmonary: decreased breath sounds at bases bilaterally, especially on
   left but no crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: Tense, markedly distended (although tenderness minimally
   improved relative to yesterday) although softer than  yesterday
s exam.
   Midline incision C/D/I, JP drain in place with sanguinous fluid, J-tube
   in place. Diffusely tender to palpation.
   Extremities: Clean dressing in place over right femoral artery puncture
   site with good pulse and no hematoma.  Clean dressing in place over
   left central venous catheter site. DP and PT pulses 2+ bilaterally. 1+
   bilateral LE edema but improved from prior exam. B/L hand edema
   markedly improved
   Labs / Radiology
   260 K/uL
   9.7 g/dL
   123 mg/dL
   1.6 mg/dL
   26 mEq/L
   3.2 mEq/L
   39 mg/dL
   109 mEq/L
   144 mEq/L
   29.0 %
   16.5 K/uL
        [image002.jpg]
                            [**2113-12-1**]  03:04 PM
                            [**2113-12-1**]  04:45 PM
                            [**2113-12-1**]  09:32 PM
                            [**2113-12-2**]  12:36 AM
                            [**2113-12-2**]  02:06 AM
                            [**2113-12-2**]  05:46 AM
                            [**2113-12-2**]  02:15 PM
                            [**2113-12-2**]  02:39 PM
                            [**2113-12-3**]  02:40 AM
                            [**2113-12-3**]  02:49 AM
   WBC
   19.0
   16.5
   Hct
   27.6
   27.9
   27.7
   27.4
   26.9
   29.0
   Plt
   202
   260
   Cr
   1.7
   1.6
   1.7
   1.6
   TCO2
   25
   24
   26
   28
   Glucose
   79
   76
   75
   123
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:88.0 %, Band:5.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:7.9
   mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   74 yo F w/ recently dx gastric adeno CA, s/p resection, transferred
   from [**Hospital3 4838**] for esophageal stenting, initially admitted to
   [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then extubated and
   called out to medical floor.  Readmitted to MICU s/p pulseless VT/VF
   arrest, then dx w/ splenic laceration requiring massive transfusion and
   splenic artery embolization.
   .
   1. RESPIRATORY FAILURE: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations. Currently, pt is 2 L negative O/N with marked improvement
   in exam and CXR (improvement of b/l LE and UE (hand) edema and
   relatively clear respiratory exam)
   - Diurese with goal net negative 0.5 to 1.0 L today
   - Check lytes tid and replete for K>4, Mg > 2
   -Continue mechanical ventilation, try PS 5/5
   - ct wean sedation (propofol)
   .
   2.  Splenic artery laceration s/p embolization by IR: Hct appears
   stable at this point.
   -- f/u IR and surgery recommendations
   -- can start checking HCT [**Hospital1 **]
   -- Transfuse for Hct<26
   -- Maintain active T+S with multiple units crossed
   -- Consider repeat tagged RBC scan if Hct continues to trend down
   3. HYPERNATREMIA- due to free water deficit. Will give 1L D5W
   maintenance
   .
   4. s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD, so there is concern for an
   ischemic event as an etiology.
   -- Monitor on telemetry: frequent ectopy but no other events, if ectopy
   give metoprolol IV.
   -- f/u cardiology recs
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- continue metoprolol
   -- continue atorvastatin
   -- maintain K>4, Mg>2
   .
   5. Leukocytosis: WBC improved to 19.0 from 21.6 .  The patient
   continues to be afebrile with no localized evidence of infectious
   process, although abdomen is the most likely source.
   -- F/u Blood and Urine cultures
   -- continue antibiotics (cefepime and fluconazole), consider adding
   gram positive coverage pending culture results
   --Will hold off on CT a/p for now
   .
   6. Acute renal failure: Differential diagnosis includes ATN from
   hypoperfusion during hypotensive episodes, obstruction, intraabdominal
   compartment syndrome.  Kidney U/S unremarkable.
   -- Send urine Eos
   -- monitor urine output
   -- maintain renal perfusion
   -- continuing to check bladder pressures
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds yesterday.
   -- Add IV Reglan for vomiting
   -- hold tube feeding for now
   -- f/u GI and surgery recs
   -- pain meds PRN
   .
   # HTN:
   -- continue metoprolol
   -- holding Diovan in setting of ARF and recent bleeding
   .
   # h/o breast CA
   -- continue Arimidex
   ICU Care
   Nutrition: NPO, hold tube feeds, replete lytes aggressively to maintain
   K>4.0, Mg>2.0 consider TPN
   Glycemic Control: insulin SC
   Lines:
   Interval jugular CVL
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: DNR
   Disposition: ICU

2113-12-03 08:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2113-12-2**] 03:00 PM
   Correcting hypernatremia
   PSV 5/5 x 2 hours yesterday
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2113-12-3**] 01:46 AM
   Cefipime - [**2113-12-3**] 06:27 AM
   fluconazole
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2113-12-2**] 07:51 PM
   Propofol - [**2113-12-2**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-3**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 100
   Tcurrent: 100
   HR: 89 (73 - 95) bpm
   BP: 152/75(104) {109/50(71) - 164/79(111)} mmHg
   RR: 24 (17 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.7 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 13 (4 - 16)mmHg
   Total In:
                                                                  2,163 mL
                                                                    388 mL
   PO:
   TF:
   IVF:
                                                                  1,963 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  3,370 mL
                                                                  1,520 mL
   Urine:
                                                                  3,350 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                 -1,207 mL
                                                                 -1,132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 393 (302 - 394) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 153
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.46/38/88
   Ve: 8.4 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Intubated, sedated, non-responsive
   Neck RIJ
   Hrt RRR
   Lungs clear anteriorly
   Abd remains distended though improved, hypoactive bowel sounds
   Extrem trace edema
   Labs / Radiology
   9.7 g/dL
   260 K/uL
   123 mg/dL
   1.6 mg/dL
   26 mEq/L
   3.2 mEq/L
   39 mg/dL
   109 mEq/L
   144 mEq/L
   29.0 %
   16.5 K/uL
        [image002.jpg]
                            [**2113-12-1**]  03:04 PM
                            [**2113-12-1**]  04:45 PM
                            [**2113-12-1**]  09:32 PM
                            [**2113-12-2**]  12:36 AM
                            [**2113-12-2**]  02:06 AM
                            [**2113-12-2**]  05:46 AM
                            [**2113-12-2**]  02:15 PM
                            [**2113-12-2**]  02:39 PM
                            [**2113-12-3**]  02:40 AM
                            [**2113-12-3**]  02:49 AM
   WBC
   19.0
   16.5
   Hct
   27.6
   27.9
   27.7
   27.4
   26.9
   29.0
   Plt
   202
   260
   Cr
   1.7
   1.6
   1.7
   1.6
   TCO2
   25
   24
   26
   28
   Glucose
   79
   76
   75
   123
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:88.0 %, Band:5.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:7.9
   mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   CXR ? worse infiltrates than yesterday, will review with radiology
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS from spleen
 stable, follow
   Hct, JP output
   Fever
 still present, concerned about new [**Last Name (LF) 1934**], [**First Name3 (LF) 116**] review CXR with
   rads
 if confirm new infiltrates expand coverage to include vanco and
   consider broadening gram negative coverage
 CARDIAC ARREST, ventricular ectopy
 continue metoprolol
 RESPIRATORY FAILURE
 did well with PSV 5/5 yesterday
 more
   secretions and worsening CXR today
 cont current settings
    ARF
 stable
    Anastomosis leak
 on abx, stent in place
   Nutrition
 retry TFs
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   [**Year (4 digits) 1934**]:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :   ICU
   Total time spent:   36

2113-12-04 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -UOP ~40cc/hr, continues to be -1.1L for the day
   -Tube feeds re-started constant rate 10cc/hr; surgery OK
   -Hct down slightly to 27.7 from 29.0 this PM.
   -Cr improving to 1.4 from 1.6 in PM
   -Re-started Lasix drip to try to achieve goal of -1.5 L for the day in
   late PM
   -Had an episode of desat into 80s upon turning, tachycardic and
   hypotensive to SBP of 90s.  Hct stable.  Spontaneously recovered when
   left alone.  ABG unremarkable.
   -Pt. spiked to 101.1F O/N.  Area around abd. drain was noted to be
   erythematous and warm.  Pan-cultured and started on IV Vanc.
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2113-12-4**] 01:50 AM
   Vancomycin - [**2113-12-4**] 04:47 AM
   Cefipime - [**2113-12-4**] 05:52 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 22 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-3**] 08:00 AM
   Propofol - [**2113-12-3**] 08:40 AM
   Fentanyl - [**2113-12-3**] 08:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-4**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 103 (74 - 106) bpm
   BP: 100/55(71) {99/51(70) - 158/80(111)} mmHg
   RR: 29 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.2 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 6 (6 - 12)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  1,332 mL
                                                                    877 mL
   PO:
   TF:
                                                                     91 mL
                                                                     75 mL
   IVF:
                                                                  1,046 mL
                                                                    693 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                  1,100 mL
   Urine:
                                                                  2,315 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                   -983 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (339 - 458) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.40/44/110/25/1
   Ve: 8.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General: intubated, sedated, not opening eyes to voice or following
   commands
   HEENT: ETT in place
   Pulmonary: decreased breath sounds at bases bilaterally, especially on
   left but no crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: Tense, markedly distended  although softer than  yesterday
   exam. Midline incision C/D/I, JP drain in place with sanguinous fluid,
   J-tube in place. Diffusely tender to palpation.
   Extremities: Clean dressing in place over left central venous catheter
   site. DP and PT pulses 2+ bilaterally. LE edema improved from prior
   exam. B/L hand edema markedly improved
   Labs / Radiology
   352 K/uL
   10.7 g/dL
   115 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.5 mEq/L
   39 mg/dL
   109 mEq/L
   144 mEq/L
   32.5 %
   14.9 K/uL
        [image002.jpg]
                            [**2113-12-2**]  02:15 PM
                            [**2113-12-2**]  02:39 PM
                            [**2113-12-3**]  02:40 AM
                            [**2113-12-3**]  02:49 AM
                            [**2113-12-3**]  03:21 PM
                            [**2113-12-3**]  03:42 PM
                            [**2113-12-3**]  10:30 PM
                            [**2113-12-3**]  10:37 PM
                            [**2113-12-3**]  11:00 PM
                            [**2113-12-4**]  03:25 AM
   WBC
   16.5
   16.3
   14.9
   Hct
   26.9
   29.0
   27.7
   29.6
   32.5
   Plt
   [**Telephone/Fax (3) 9457**]
   Cr
   1.6
   1.4
   1.3
   TCO2
   26
   28
   27
   29
   28
   Glucose
   123
   98
   115
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:1.0
   %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:7.6
   mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   74 yo F w/ recently dx gastric adeno CA, s/p resection, transferred
   from [**Hospital3 4838**] for esophageal stenting, initially admitted to
   [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then extubated and
   called out to medical floor.  Readmitted to MICU s/p pulseless VT/VF
   arrest, then dx w/ splenic laceration requiring massive transfusion and
   splenic artery embolization.
   .
   1. RESPIRATORY FAILURE: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations. Today met diuresis goals, but CXR concerning for new
   infiltrates.
   - Diurese with goal net negative 0.5 to 1.0 L today
   - Check lytes tid and replete for K>4, Mg > 2
   -Continue mechanical ventilation, try PS 5/5
   - ct wean sedation (propofol)
   .
   2.  Splenic artery laceration s/p embolization by IR: Hct appears
   stable at this point.
   -- f/u IR and surgery recommendations
   -- f/u Hct [**Hospital1 **]
   -- Transfuse for Hct<26
   -- Maintain active T+S with multiple units crossed
   -- Consider repeat tagged RBC scan if Hct continues to trend down
   3. HYPERNATREMIA- resolved, continue to monitor [**Hospital1 **]
   .
   4. s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD, so there is concern for an
   ischemic event as an etiology.
   -- Monitor on telemetry: no ectopy today
   -- f/u cardiology recs
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- continue metoprolol, increase dosing to tid
   -- continue atorvastatin
   -- maintain K>4, Mg>2
   .
   5. Leukocytosis: WBC continuing to trend down, however concern for new
   infiltrates on CXR.  Low grade fevers.
   --Trend WBCs, fever curves
   -- F/u Blood and Urine cultures
   -- continue antibiotics (cefepime and fluconazole), low threshold to
   add gram positive coverage and additional Pseudomonal coverage
   --Will hold off on CT a/p for now
   --f/u final CXR read from today
   .
   6. Acute renal failure: Differential diagnosis includes ATN from
   hypoperfusion during hypotensive episodes, contrast-induced
   nephropathy.  Kidney U/S unremarkable.  Bladder pressures improving,
   intraabd. Compartment syndrome unlikely.  Renal function improving
   slightly today.
   -- monitor urine output
   -- maintain renal perfusion
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds.
   -- Continue IV Reglan for vomiting
   -- consider re-start tube feeding today
   -- f/u GI and surgery recs
   -- pain meds PRN
   .
   # HTN:
   -- continue metoprolol
   -- holding Diovan in setting of ARF and recent bleeding
   .
   # h/o breast CA
   -- continue Arimidex
   ICU Care
   Nutrition: re-start tube feeds if tolerated, replete lytes aggressively
   to maintain K>4.0, Mg>2.0 consider TPN
   Glycemic Control: insulin SC
   Lines:
   Interval jugular CVL
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: DNR
   Disposition: ICU

2113-12-04 09:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Blood loss anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2113-12-4**] 04:14 AM
 FEVER - 101.1
F - [**2113-12-4**] 04:00 AM
   -Patient with negative fluid balance across the night
   -Patient with stable HCT
   -Patient with recurrent fevers last evening to 101
   -Patient with erythema in J-tube site and IV Vancomycin added to
   treatment with Cefepime/Fluc/Flagyl
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Metronidazole - [**2113-12-4**] 01:50 AM
   Vancomycin - [**2113-12-4**] 04:47 AM
   Cefipime - [**2113-12-4**] 05:52 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 22 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-12-4**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 103 (74 - 106) bpm
   BP: 107/59(77) {99/51(70) - 158/80(111)} mmHg
   RR: 32 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.2 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 6 (6 - 12)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
                                Total In:
                                                                  1,332 mL
                                                                    953 mL
   PO:
                                TF:
                                                                     91 mL
                                                                     93 mL
   IVF:
                                                                  1,046 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                  1,160 mL
   Urine:
                                                                  2,315 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   30 mL
   Balance:
                                                                   -983 mL
                                                                   -207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 351 (341 - 458) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 138
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.40/44/110/25/1
   Ve: 8.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )-_Wheezing
   Abdominal: Soft, Bowel sounds present, Distended, Bladder pressure==10,
   mild improvement in distention noted
   Extremities: Warm extremeties
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   352 K/uL
   115 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.5 mEq/L
   39 mg/dL
   109 mEq/L
   144 mEq/L
   32.5 %
   14.9 K/uL
        [image002.jpg]
                            [**2113-12-2**]  02:15 PM
                            [**2113-12-2**]  02:39 PM
                            [**2113-12-3**]  02:40 AM
                            [**2113-12-3**]  02:49 AM
                            [**2113-12-3**]  03:21 PM
                            [**2113-12-3**]  03:42 PM
                            [**2113-12-3**]  10:30 PM
                            [**2113-12-3**]  10:37 PM
                            [**2113-12-3**]  11:00 PM
                            [**2113-12-4**]  03:25 AM
   WBC
   16.5
   16.3
   14.9
   Hct
   26.9
   29.0
   27.7
   29.6
   32.5
   Plt
   [**Telephone/Fax (3) 9457**]
   Cr
   1.6
   1.4
   1.3
   TCO2
   26
   28
   27
   29
   28
   Glucose
   123
   98
   115
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:1.0
   %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:7.6
   mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: AG-10
   Imaging: CXR-ETT at carina, feeding tube atypical and stent in place
   wtih left IJ--suggestion of LLL collapse and perhaps RLL edema.
   Assessment and Plan
   74 yo female with gastric CA now s/p resection with esophageal stent
   [**Hospital 9460**] hospital course has been complicated by splenic artery
   bleed, VT/VF arrest on the floor, she has had persistent issues of
   pulmonary edema driving need for continued ventilatory support.  She
   has had recurrent fever and has had a modest decrease in SBP across
   time.  This is in the absence of bandemia but is concerning for new
   source of infection with skin source suspected based on exam but
   cultures are pending.
   1)Respiratory Failure-Patient with concern for new source of infection
   with fever and hypotension.  We will have to continue full support  in
   the itnerim with PSV now showing adequate support but with substantial
   increase in RR to maintain effective tidal volume.
   -Move to A/C support today
   -Follow ABG
   -Will use minimum of sedation at this time
   -Add MDI
s for bronchospasm noted on exam this morning
   2)Sepsis-With recurrent fevers we have abdominal source, VAP, Skin
   source, possible DVT, sinusitis and of course fungal infection
   resistant to fluconazole.  Given the above concerns we will
   -Vanco/Cefepime/Flagyl/Fluconazole
   -Send sputum culture and will continue to follow CXR
   -Will have to evaluate for DVT with UE and LE non-invasive studies
   -Will pursue CT scan for evaluation of abdominal source and further
   evaluate for pulmonary source as well and will move to
 contrast
   through the feeding tube and IV contrast is possible as we have
   improvement in creatinine today.
   -Wil move to pre-treat with bicarb and mucormyst
   -Will send urine for culture
   -Will check C-Diff today
   3-Acute Renal Failure-
   -Improvement in creatinine noted through today
   -Will continue to assure adequate hydration
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2113-12-3**] 02:57 PM 10 mL/hour
   -Will need to consider TPN support if we have not been able to maintain
   tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2113-12-05 07:09:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9291**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   Due to patient spiking temps, leukocytosis,
   -CT chest/abdomen/pelvis w/o contrast showed:
   1. Large left-sided pleural effusion with collapse of the left lower
   lobe;
   small right pleural effusion with associated atelectasis.
   2. Gastroesophageal stent with interval decrease in extraluminal air.
   3. Stable splenic JP drain and infrasplenic fluid collection/hematoma.
   4. Percutaneous J-tube without evidence of intestinal obstruction.
   5. Increase in intra-abdominal fluid, while the portal vein remains
   patent.
   6. No definitive abscess seen.
   -RUE U/S negative for DVT
   -sputum with coag+ staph (MRSA screen was positive) - already on vanc
   Allergies:
   Adhesive Tape (Topical)--itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)--itching;
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-4**] 04:47 AM
   Cefipime - [**2113-12-4**] 05:52 AM
   Metronidazole - [**2113-12-5**] 02:31 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-5**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98
   HR: 100 (94 - 111) bpm
   BP: 99/53(71) {83/46(61) - 161/89(117)} mmHg
   RR: 18 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 13 (7 - 15)mmHg
   Total In:
                                                                  3,345 mL
                                                                    818 mL
   PO:
   TF:
                                                                    181 mL
   IVF:
                                                                  2,915 mL
                                                                    818 mL
   Blood products:
   Total out:
                                                                  1,567 mL
                                                                    205 mL
   Urine:
                                                                  1,512 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                  1,778 mL
                                                                    613 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 351 (351 - 351) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.44/39/107/25/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General: intubated, sedated, not opening eyes to voice or following
   commands
   HEENT: ETT in place
   Pulmonary: decreased breath sounds at bases bilaterally, especially on
   left but no crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: Continues to be less tense and distended. Midline incision
   C/D/I, JP drain in place with sanguinous fluid, J-tube in place. Warmth
   and erythema around J-tube.
   Extremities: Clean dressing in place over left central venous catheter
   site. DP and PT pulses 2+ bilaterally. LE edema improved from prior
   exam. B/L hand edema markedly improved
   Labs / Radiology
   407 K/uL
   9.6 g/dL
   149 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   43 mg/dL
   111 mEq/L
   144 mEq/L
   29.0 %
   22.5 K/uL
        [image002.jpg]
                            [**2113-12-3**]  11:00 PM
                            [**2113-12-4**]  03:25 AM
                            [**2113-12-4**]  11:07 AM
                            [**2113-12-4**]  12:01 PM
                            [**2113-12-4**]  05:47 PM
                            [**2113-12-4**]  09:11 PM
                            [**2113-12-4**]  09:22 PM
                            [**2113-12-4**]  09:52 PM
                            [**2113-12-5**]  03:36 AM
                            [**2113-12-5**]  03:53 AM
   WBC
   14.9
   16.7
   22.5
   Hct
   32.5
   32.0
   28.7
   28.8
   29.0
   Plt
   [**Telephone/Fax (3) 9469**]
   Cr
   1.3
   1.6
   1.7
   TCO2
   28
   28
   27
   26
   Glucose
   115
   169
   149
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:5.1 %, Mono:2.7 %, Eos:0.4
   %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:6.8
   mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   74 yo F w/ recently dx gastric adeno CA, s/p resection, transferred
   from [**Hospital3 4838**] for esophageal stenting, initially admitted to
   [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then extubated and
   called out to medical floor.  Readmitted to MICU s/p pulseless VT/VF
   arrest, then dx w/ splenic laceration requiring massive transfusion and
   splenic artery embolization.
   .
   1. RESPIRATORY FAILURE: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations. Today met diuresis goals, but CXR concerning for new
   infiltrates.
   - Hold Lasix today in the setting of preparation for CT scan
   - Check lytes tid and replete for K>4, Mg > 2
   -Continue mechanical ventilation at PS 10/5
   2.  Splenic artery laceration s/p embolization by IR: Hct appears
   stable at this point.
   -- f/u IR and surgery recommendations
   -- f/u Hct [**Hospital1 **]
   -- Transfuse for Hct<26
   -- Maintain active T+S with multiple units crossed
   -- Consider repeat tagged RBC scan if Hct continues to trend down
   3. HYPERNATREMIA- resolved, continue to monitor [**Hospital1 **]
   4. s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD, so there is concern for an
   ischemic event as an etiology.
   -- Monitor on telemetry: no ectopy today
   -- f/u cardiology recs
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- continue Metoprolol at tid dosing with holding parameters
   -- continue Atorvastatin
   -- maintain K>4, Mg>2
   .
   5. Leukocytosis, Fevers: WBC continuing to trend down, however concern
   for new febrile episodes.  No clear source of infection, likely
   abdominal source vs. VAP vs. line infection vs. thromboembolic event
   --Trend WBCs, fever curves
   -- F/u Sputum, Blood and Urine cultures
   -- continue broad coverage with Cefepime, Fluconazole, Flagyl and
   Vancomycin for now pending culture data
   --CT chest / abdomen and pelvis with PO and IV contrast after
   pre-hydration, Mucomyst, bicarb to look for evidence of infection.
   --Needs PIV access for contrast injection
   --f/u final CXR read from today
   --F/u RUE U/S
   .
   6. Acute renal failure: Renal function continues to improve.  Kidney
   U/S unremarkable.  Bladder pressures improving.
   -- monitor urine output, trend Cr
   -- maintain renal perfusion
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds.
   -- Continue IV Reglan for vomiting
   -- continue tube feeding today at low goal rate
   -- f/u GI and surgery recs
   -- pain meds PRN
   .
   # HTN:
   -- continue metoprolol
   -- holding Diovan in setting of ARF and recent bleeding
   .
   # h/o breast CA
   -- continue Arimidex
   ---------------------------------------------------------------------
   74 yo female with gastric CA now s/p resection with esophageal stent
   [**Hospital 9460**] hospital course has been complicated by splenic artery
   bleed, VT/VF arrest on the floor, she has had persistent issues of
   pulmonary edema driving need for continued ventilatory support.  She
   has had recurrent fever and has had a modest decrease in SBP across
   time.  This is in the absence of bandemia but is concerning for new
   source of infection with skin source suspected based on exam but
   cultures are pending.
   1)Respiratory Failure-Patient with concern for new source of infection
   with fever and hypotension.  We will have to continue full support  in
   the itnerim with PSV now showing adequate support but with substantial
   increase in RR to maintain effective tidal volume.
   -Move to A/C support today
   -Follow ABG
   -Will use minimum of sedation at this time
   -Add MDI
s for bronchospasm noted on exam this morning
   2)Sepsis-With recurrent fevers we have abdominal source, VAP, Skin
   source, possible DVT, sinusitis and of course fungal infection
   resistant to fluconazole.  Given the above concerns we will
   -Vanco/Cefepime/Flagyl/Fluconazole
   -Send sputum culture and will continue to follow CXR
   -Will have to evaluate for DVT with UE and LE non-invasive studies
   -Will pursue CT scan for evaluation of abdominal source and further
   evaluate for pulmonary source as well and will move to
 contrast
   through the feeding tube and IV contrast is possible as we have
   improvement in creatinine today.
   -Wil move to pre-treat with bicarb and mucormyst
   -Will send urine for culture
   -Will check C-Diff today
   3-Acute Renal Failure-
   -Improvement in creatinine noted through today
   -Will continue to assure adequate hydration
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   20 Gauge - [**2113-12-4**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2113-12-05 10:46:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT Scan--Without significant change from prior--in regards to
   explanation for source of infection.  There was some decrease in
   extraluminal air in area of GE junction
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-4**] 04:47 AM
   Cefipime - [**2113-12-4**] 05:52 AM
   Metronidazole - [**2113-12-5**] 02:31 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-5**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2113-12-5**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98
   HR: 110 (94 - 112) bpm
   BP: 120/63(84) {83/46(61) - 145/78(104)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 10 (7 - 15)mmHg
   Total In:
                                                                  3,345 mL
                                                                  1,001 mL
   PO:
   TF:
                                                                    181 mL
   IVF:
                                                                  2,915 mL
                                                                    971 mL
   Blood products:
   Total out:
                                                                  1,567 mL
                                                                    275 mL
   Urine:
                                                                  1,512 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                  1,778 mL
                                                                    726 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.44/39/107/25/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   407 K/uL
   149 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   43 mg/dL
   111 mEq/L
   144 mEq/L
   29.0 %
   22.5 K/uL
        [image002.jpg]
                            [**2113-12-3**]  11:00 PM
                            [**2113-12-4**]  03:25 AM
                            [**2113-12-4**]  11:07 AM
                            [**2113-12-4**]  12:01 PM
                            [**2113-12-4**]  05:47 PM
                            [**2113-12-4**]  09:11 PM
                            [**2113-12-4**]  09:22 PM
                            [**2113-12-4**]  09:52 PM
                            [**2113-12-5**]  03:36 AM
                            [**2113-12-5**]  03:53 AM
   WBC
   14.9
   16.7
   22.5
   Hct
   32.5
   32.0
   28.7
   28.8
   29.0
   Plt
   [**Telephone/Fax (3) 9469**]
   Cr
   1.3
   1.6
   1.7
   TCO2
   28
   28
   27
   26
   Glucose
   115
   169
   149
   Other labs: PT / PTT / INR:14.8/36.0/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:5.1 %, Mono:2.7 %, Eos:0.4
   %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:349 IU/L, Ca++:6.8
   mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR--mild increase in moderate sized left sided effusion and
   small amounts of right sided effusion
   Assessment and Plan
   74 yo female admit with sepsis in the setting of GI malignancy and
   stending to GE junction with ongoing drainage of intra-peritoneal
   collection.  In this setting she has had persistent fevers.
   Sepsis-Some persistent moderate hypotension noted.  We have ongoing low
   grade fevers and no alternative source for infection found.  We do have
   concern for possible ongoing aspiration
   -Will move to tap pleural effusion today
   -Will continue with broad spectrum antibiotics
   -Will follow up with surgery re J-tube and ongoing management
   -Will follow up with IP on effusion tap
   -Will follow up with surgery on anything that can be done to minimize
   oral secretions being aspirated
   Acute Renal Failure-
   -Fluid bolus as needed across today
   -Expect decrease with recovery from IV contrast
   Respiratory Failure-
   -Continues with primary defect in compliance
   -Will continue to support with A/C mode
   ICU Care
   Nutrition: Tube feeds held until evaluation of J-tube placement
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   20 Gauge - [**2113-12-4**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2113-12-06 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -belly seems rigid, bilious fluid draining from J-tube site which
   appears erythematous w/ puckered skin concerning for skin infx although
   gen [**Doctor First Name **] does not think this is concerning
   -she continues to have bilious emesis
   -surgery says to place NGT under fluoro guidance, called GI was against
   NGT d/t esoph stenting
   -due to worsening left pleural effusion, had diagnostic thoracentesis.
   600cc of serosanginous turbid fluid removed, with lab data showing
   exudative effusion, cytology pending.  No empyema.
   -Had palliative care c/s  ordered
   -Gave multiple fluid boluses d/t poor UOP
   -Around 1am, the patient is tachycardic to 120s, hypotensive.  Hct was
   stable.  The patient was started on Levophed for hypotension.
   This AM, the pt. continues to be on Levophed for hypotension.  She is
   intubated and sedated, not responsive to voice commands.
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-12-4**] 05:52 AM
   Vancomycin - [**2113-12-5**] 12:00 PM
   Metronidazole - [**2113-12-6**] 01:41 AM
   Ceftazidime - [**2113-12-6**] 06:27 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-5**] 08:30 AM
   Midazolam (Versed) - [**2113-12-5**] 11:58 PM
   Fentanyl - [**2113-12-5**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-6**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.3
C (100.9
   HR: 102 (87 - 124) bpm
   BP: 108/50(70) {85/49(64) - 148/78(104)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 8 (8 - 14)mmHg
   Total In:
                                                                  1,889 mL
                                                                    875 mL
   PO:
   TF:
   IVF:
                                                                  1,789 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                     85 mL
   Urine:
                                                                    550 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
                                                                    615 mL
   Balance:
                                                                    724 mL
                                                                    790 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.40/36/96.[**Numeric Identifier 274**]/21/-1
   Ve: 9.8 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General: intubated, sedated, not opening eyes to voice or following
   commands
   HEENT: ETT in place, having bilious emesis
   Pulmonary: decreased breath sounds at bases bilaterally, especially on
   left but no crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: More  tense and distended today. Midline incision C/D/I, JP
   drain in place with sanguinous fluid, J-tube in place. Warmth and
   erythema around J-tube.  Jtube site draining bilious fluids
   Extremities: Clean dressing in place over left central venous catheter
   site. DP and PT pulses 2+ bilaterally. LE edema improved from prior
   exam. B/L hand edema stable
   Labs / Radiology
   505 K/uL
   9.2 g/dL
   119 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   51 mg/dL
   113 mEq/L
   145 mEq/L
   28.2 %
   21.0 K/uL
        [image002.jpg] Vanco Trough 28.5
                            [**2113-12-4**]  12:01 PM
                            [**2113-12-4**]  05:47 PM
                            [**2113-12-4**]  09:11 PM
                            [**2113-12-4**]  09:22 PM
                            [**2113-12-4**]  09:52 PM
                            [**2113-12-5**]  03:36 AM
                            [**2113-12-5**]  03:53 AM
                            [**2113-12-6**]  12:35 AM
                            [**2113-12-6**]  03:42 AM
                            [**2113-12-6**]  03:54 AM
   WBC
   16.7
   22.5
   22.1
   21.0
   Hct
   28.7
   28.8
   29.0
   27.8
   28.2
   Plt
   [**Telephone/Fax (3) 9493**]05
   Cr
   1.6
   1.7
   2.3
   TCO2
   28
   27
   26
   23
   Glucose
   169
   149
   119
   Other labs: PT / PTT / INR:15.2/32.5/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:5.1 %, Mono:2.7 %, Eos:0.4
   %, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL, LDH:697 IU/L, Ca++:7.2
   mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Urine Cx, Blood Cx pending.  C. diff negative.
   Assessment and Plan
   74 yo F w/ recently dx gastric adeno CA, s/p resection, transferred
   from [**Hospital3 4838**] for esophageal stenting, initially admitted to
   [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then extubated and
   called out to medical floor.  Readmitted to MICU s/p pulseless VT/VF
   arrest, then dx w/ splenic laceration requiring massive transfusion and
   splenic artery embolization.
   .
   1. RESPIRATORY FAILURE: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations. Today met diuresis goals, but CXR concerning for new
   infiltrates.
   - Hold Lasix today in the setting of preparation for CT scan
   - Check lytes tid and replete for K>4, Mg > 2
   -Continue mechanical ventilation at PS 10/5
   -continue to autodiurese, goal euvolemia
   -Will need diagnostic thoracentesis to evaluate worsening leukocytosis,
   large fluid collection on CT scan, concerning for
   emphyema/parapneumonic effusion-> will send cytology (r/o malignant
   effusion), glucose, LDH, pH etc..
   2. SEPSIS (Fever, Leukocytosis, Hypotension)- source unclear, likely
   intra-abdominal source, however other sources like infected CVL and
   sinuses are possible, but much less likely.
   -- f/u all outsdtanding Urine, Blood, Sputum, pleural fluid Cx
   -- Discuss with surgery about any other possible surgical intervention
   -- f/u pleural fluid studies
   -- ct vroad spectrum antibiotics (cefepime, fluconazole, flagyl,
   vancomycin)
   3.  Splenic artery laceration s/p embolization by IR: Hct appears
   stable at this point.
   -- f/u IR and surgery recommendations
   -- f/u Hct [**Hospital1 **]
   -- Transfuse for Hct<26
   -- Maintain active T+S with multiple units crossed
   -- Consider repeat tagged RBC scan if Hct continues to trend down
   4. HYPERNATREMIA- resolved, continue to monitor [**Hospital1 **]
   5. s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD, so there is concern for an
   ischemic event as an etiology.
   -- Monitor on telemetry: no ectopy today
   -- f/u cardiology recs
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- continue Metoprolol at tid dosing with holding parameters
   -- continue Atorvastatin
   -- maintain K>4, Mg>2
   6. Acute renal failure: Renal function continues to improve.  Kidney
   U/S unremarkable.  Bladder pressures improving.
   -- monitor urine output, trend Cr
   -- maintain renal perfusion
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds.
   -- Continue IV Reglan for vomiting
   -- continue tube feeding today at low goal rate
   -- f/u GI and surgery recs
   -- pain meds PRN
   .
   # HTN:
   -- continue metoprolol
   -- holding Diovan in setting of ARF and recent bleeding
   .
   # h/o breast CA
   -- continue Arimidex
   ICU Care
   Nutrition: NPO, c/s GI
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   20 Gauge - [**2113-12-4**] 03:00 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate) do not re-intubate
   Disposition: [**Hospital Unit Name 10**]

2113-12-06 10:56:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Faliure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2113-12-5**] 01:00 PM
 THORACENTESIS - At [**2113-12-5**] 04:00 PM
 FEVER - 101.5
F - [**2113-12-5**] 12:00 PM
   SURGERY-In to eval patient who felt J-tube as functioning adequately
   Patient with worsening tachycardia overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-12-4**] 05:52 AM
   Vancomycin - [**2113-12-5**] 12:00 PM
   Metronidazole - [**2113-12-6**] 01:41 AM
   Ceftazidime - [**2113-12-6**] 06:27 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2113-12-6**] 08:45 AM
   Midazolam (Versed) - [**2113-12-6**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-12-6**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.4
C (101.1
   HR: 109 (87 - 126) bpm
   BP: 100/53(69) {85/49(64) - 176/95(124)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 6 (0 - 14)mmHg
   Total In:
                                                                  1,889 mL
                                                                    991 mL
   PO:
   TF:
   IVF:
                                                                  1,789 mL
                                                                    991 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    105 mL
   Urine:
                                                                    550 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
                                                                    615 mL
   Balance:
                                                                    724 mL
                                                                    886 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.40/36/96.[**Numeric Identifier 274**]/21/-1
   Ve: 9.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Bowel sounds present, Distended, Mild increase
   in abdominal distention.
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   505 K/uL
   119 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   51 mg/dL
   113 mEq/L
   145 mEq/L
   28.2 %
   21.0 K/uL
        [image002.jpg]
                            [**2113-12-4**]  12:01 PM
                            [**2113-12-4**]  05:47 PM
                            [**2113-12-4**]  09:11 PM
                            [**2113-12-4**]  09:22 PM
                            [**2113-12-4**]  09:52 PM
                            [**2113-12-5**]  03:36 AM
                            [**2113-12-5**]  03:53 AM
                            [**2113-12-6**]  12:35 AM
                            [**2113-12-6**]  03:42 AM
                            [**2113-12-6**]  03:54 AM
   WBC
   16.7
   22.5
   22.1
   21.0
   Hct
   28.7
   28.8
   29.0
   27.8
   28.2
   Plt
   [**Telephone/Fax (3) 9493**]05
   Cr
   1.6
   1.7
   2.3
   TCO2
   28
   27
   26
   23
   Glucose
   169
   149
   119
   Other labs: PT / PTT / INR:15.2/32.5/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:13/13, Alk Phos / T Bili:107/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:5.1 %, Mono:2.7 %, Eos:0.4
   %, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL, LDH:697 IU/L, Ca++:7.2
   mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Pleural Fluid-
   TP-3.0 (4.5)
   LDH-267 (697)
   WBC-355
   pH-7.46
   GS-4+ PMN's
   Imaging: CXR-CVL and ETT in good position, small bilateral pleural
   effusions, improved left sided effusion
   Microbiology: NGTD on repeat cultures
   Sputum with Coag + S. Aureus
   Assessment and Plan
   74 yo female with metastatic colon cancer now with evolution of
   persistent sepsis in the setting of multiple intra-abdominal fluid
   collections which have been addressed with drainage but with persistent
   respiratory failure and fever despite antibiotic therapy in the setting
   of hospital course complicated by V-Fib arrest.  This is in the setting
   of continued rising WBC count and we have pursued repeat imaging and
   drainage of pleural fluid without obvious evidence of acute infection
   to provide a unifying new insult to be addressed.  This leaves us with
   persistent insult of colon cancer with intra-abdominal fluid collection
   and with worsening of renal failure and persistent respiratory failure
   all making and reasonable expectation of meaningful recovery [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 9499**]
   with time.
   1)SEPSIS-This appears to be continued insult with intra-abdominal
   process and we do not have any further findings to suggest alternative
   source at this time.  Of the list of possible alternative sources the
   sinuses, central line remain possible but less likely.  Pleural
   effusion was drained and does not seem to be a primary source.  We do
   have concern for persistent collection driving picture and will have to
   consider any possible further investigations.
   -Will discuss with surgery
Gold service
   -Flagyl/Cefepime/Vanco/Fluconazole
we have > 2 weeks on Cefepime/Fluc,
   we have day #3 of Vancomycin, and we have D #6 of Flagyl
   -Will follow cultures going forward
   -In regards to CVL
site appears clean, do not have positive blood
   cultures and will maintain ongoing support pending positive blood
   cultures from the line itself.  Do not have any evidence of drainge
   from above.
   2)RESPIRATORY FAILURE-Patient with continued need for full A/C support
   and will maintain based upon favorable blood gas findings and
   acceptable PIP=26
   -Continue with A/C
   3)RENAL FAILURE-The patient has worsening renal function-
   -Will need urine lytes
   -Will need renal ultrasound
   -Will need for follow creatinine
   -Will check bladder pressure
   4) CANCER (MALIGNANT NEOPLASM), STOMACH
   -Simply need to discuss current role of malignancy and what if any
   further treatments would be possible.
   5) CARDIAC ARREST
   -Stability of rhythm maintained
   ICU Care
   Nutrition: J-tube feeds to be trialed
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   20 Gauge - [**2113-12-4**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Will have meeting with family following
   discussion with consultative services.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2113-12-07 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Family meeting held; the family stated that they would want to stop
   treatment if they knew that the pt. would not be able to get home / be
   independent.
   -No tube feeds / TPN for now.
   -Surgery stated keep JP in place at this point
   -Hypotensive at night to MAPs in high 50s, given 1L LR bolus x2
   -LDH and AP trending up significantly on most recent labs
   -Continues to have bilious emesis this AM
   This AM, intubated, sedated and not responsive to voice commands.
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-5**] 12:00 PM
   Ceftazidime - [**2113-12-6**] 06:27 AM
   Metronidazole - [**2113-12-7**] 02:08 AM
   Cefipime - [**2113-12-7**] 05:47 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2113-12-6**] 05:32 PM
   Fentanyl - [**2113-12-6**] 05:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-7**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.8
   HR: 123 (88 - 134) bpm
   BP: 90/47(63) {80/45(59) - 176/95(124)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 2 (0 - 302)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  3,247 mL
                                                                  1,233 mL
   PO:
   TF:
   IVF:
                                                                  3,247 mL
                                                                  1,233 mL
   Blood products:
   Total out:
                                                                    415 mL
                                                                    136 mL
   Urine:
                                                                    305 mL
                                                                     56 mL
   NG:
                                                                     80 mL
                                                                     80 mL
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                  2,832 mL
                                                                  1,097 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 242 (242 - 242) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 169
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 90%
   ABG: 7.42/40/68/23/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General: intubated, sedated, not opening eyes to voice or following
   commands
   HEENT: ETT in place, having bilious emesis
   Pulmonary: decreased breath sounds at bases bilaterally, especially on
   left but no crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: More  tense and distended today. Midline incision C/D/I, JP
   drain in place with sanguinous fluid, J-tube in place. Warmth and
   erythema around J-tube.  Jtube site draining bilious fluids
   Extremities: Clean dressing in place over left central venous catheter
   site. DP and PT pulses 2+ bilaterally. LE edema improved from prior
   exam. B/L hand edema stable
   Labs / Radiology
   552 K/uL
   8.9 g/dL
   143 mg/dL
   2.8 mg/dL
   23 mEq/L
   4.3 mEq/L
   60 mg/dL
   109 mEq/L
   143 mEq/L
   27.1 %
   19.9 K/uL
        [image002.jpg]
                            [**2113-12-4**]  09:22 PM
                            [**2113-12-4**]  09:52 PM
                            [**2113-12-5**]  03:36 AM
                            [**2113-12-5**]  03:53 AM
                            [**2113-12-6**]  12:35 AM
                            [**2113-12-6**]  03:42 AM
                            [**2113-12-6**]  03:54 AM
                            [**2113-12-6**]  04:12 PM
                            [**2113-12-7**]  05:41 AM
                            [**2113-12-7**]  05:50 AM
   WBC
   22.5
   22.1
   21.0
   19.9
   Hct
   28.8
   29.0
   27.8
   28.2
   26.5
   27.1
   Plt
   [**Telephone/Fax (3) 9524**]52
   Cr
   1.7
   2.3
   2.5
   2.8
   TCO2
   27
   26
   23
   27
   Glucose
   149
   119
   209
   143
   Other labs: PT / PTT / INR:15.0/31.9/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:[**11-5**], Alk Phos / T Bili:245/1.1,
   Amylase / Lipase:41/22, Differential-Neuts:89.7 %, Band:0.0 %,
   Lymph:7.0 %, Mono:2.2 %, Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:1.8
   g/dL, LDH:768 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   74 yo F w/ recently dx gastric adeno CA, s/p resection, transferred
   from [**Hospital3 4838**] for esophageal stenting, initially admitted to
   [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then extubated and
   called out to medical floor.  Readmitted to MICU s/p pulseless VT/VF
   arrest, then dx w/ splenic laceration requiring massive transfusion and
   splenic artery embolization.
   .
   1. RESPIRATORY FAILURE: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations.
   - Check lytes tid and replete for K>4, Mg > 2
   -Continue volume-controlled mechanical ventilation at current settings
   -Hold Lasix in the setting of hypotension
   -Re-assess meds that may make contribute to patient agitaion and
   discomfort.
   2. SEPSIS (Fever, Leukocytosis, Hypotension)- source unclear, likely
   intra-abdominal source, however other sources like infected CVL and
   sinuses are possible, but much less likely.
   -- f/u all outsdtanding Urine, Blood, Sputum, pleural fluid Cx
   -- f/u pleural fluid studies
   --Will add Meropenem, Linezolid and Micofungin (d/c Vancomycin and
   Fluconazole) to broaden coverage to ESBL Klebsiella, VRE and broaded
   antifungal coverage.
   --IVF boluses as needed for MAP>65, re-start Levophed if necessary
   --Trend CVP
   3.  Splenic artery laceration s/p embolization by IR: Hct appears
   stable at this point.
   -- f/u IR and surgery recommendations
   -- f/u Hct [**Hospital1 **]
   -- Transfuse for Hct<26
   -- Maintain active T+S with multiple units crossed
   -- Consider repeat tagged RBC scan if Hct continues to trend down
   4. HYPERNATREMIA- resolved, continue to monitor [**Hospital1 **]
   5. s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD, so there is concern for an
   ischemic event as an etiology.
   -- Monitor on telemetry: no ectopy today
   -- f/u cardiology recs
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- Holding Metoprolol in the setting of hypotension
   -- continue Atorvastatin
   -- maintain K>4, Mg>2
   6. Acute renal failure: RF continues to worsen, likely ATN secondary to
   sepsis/ hypotension vs. contrast-induced nephropathy
   --send Urine lytes prior to and after fluid challenge
   --Assess urine sediment
   --Renal consult.
   --Monitor bladder pressures
   -- monitor urine output, trend Cr
   -- maintain renal perfusion
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds.
   -- Continue IV Reglan for vomiting
   -- start TPN, no tube feeds
   -- f/u GI and surgery recs
   .
   # HTN:
   --hold metoprolol given hypotension
   -- holding Diovan in setting of ARF and recent bleeding
   .
   # h/o breast CA
   -- continue Arimidex
   #Goals of care
   --Ongoing discussion with the family
   --Discuss pain management with increased doses of Fentanyl
   ICU Care
   Nutrition: NPO, hold tube feeds, TPN consult
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   20 Gauge - [**2113-12-4**] 03:00 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with family
   Code status: DNR (do not resuscitate) do not re-intubate
   Disposition: [**Hospital Unit Name 10**]

2113-12-07 10:12:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: s/p arrest, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.5
F - [**2113-12-6**] 12:00 PM
   Hypotense overnight --> fluid boluses
   Patient unable to provide history: Sedated
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-5**] 12:00 PM
   Ceftazidime - [**2113-12-6**] 06:27 AM
   Metronidazole - [**2113-12-7**] 02:08 AM
   Cefipime - [**2113-12-7**] 05:47 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2113-12-6**] 05:32 PM
   Midazolam (Versed) - [**2113-12-6**] 05:32 PM
   Pantoprazole (Protonix) - [**2113-12-7**] 08:00 AM
   Other medications:
   flagyl, cefepime, SQI, fentanyl, statin, PPI, lopressor (held), MDIs,
   versed @ 0.5, arimidex (held), fluconazole IV, vancomycin IV
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-7**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.1
C (98.7
   HR: 111 (106 - 134) bpm
   BP: 92/49(64) {80/44(58) - 133/77(95)} mmHg
   RR: 17 (15 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 2 (2 - 302)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  3,247 mL
                                                                  1,375 mL
   PO:
   TF:
   IVF:
                                                                  3,247 mL
                                                                  1,375 mL
   Blood products:
   Total out:
                                                                    415 mL
                                                                    136 mL
   Urine:
                                                                    305 mL
                                                                     56 mL
   NG:
                                                                     80 mL
                                                                     80 mL
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                  2,832 mL
                                                                  1,239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 242 (242 - 242) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 169
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 92%
   ABG: 7.42/40/68/23/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   552 K/uL
   143 mg/dL
   2.8 mg/dL
   23 mEq/L
   4.3 mEq/L
   60 mg/dL
   109 mEq/L
   143 mEq/L
   27.1 %
   19.9 K/uL
        [image002.jpg]
                            [**2113-12-4**]  09:22 PM
                            [**2113-12-4**]  09:52 PM
                            [**2113-12-5**]  03:36 AM
                            [**2113-12-5**]  03:53 AM
                            [**2113-12-6**]  12:35 AM
                            [**2113-12-6**]  03:42 AM
                            [**2113-12-6**]  03:54 AM
                            [**2113-12-6**]  04:12 PM
                            [**2113-12-7**]  05:41 AM
                            [**2113-12-7**]  05:50 AM
   WBC
   22.5
   22.1
   21.0
   19.9
   Hct
   28.8
   29.0
   27.8
   28.2
   26.5
   27.1
   Plt
   [**Telephone/Fax (3) 9524**]52
   Cr
   1.7
   2.3
   2.5
   2.8
   TCO2
   27
   26
   23
   27
   Glucose
   149
   119
   209
   143
   Other labs: PT / PTT / INR:15.0/31.9/1.3, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:[**11-5**], Alk Phos / T Bili:245/1.1,
   Amylase / Lipase:41/22, Differential-Neuts:89.7 %, Band:0.0 %,
   Lymph:7.0 %, Mono:2.2 %, Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:1.8
   g/dL, LDH:768 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   74-year-old woman with
          Respiratory failure
          Acute renal failure
          Hypotension
          Fever and ?sepsis
          s/p VF arrest
          complicated intra-abdominal pathology
   74 yo female with metastatic colon cancer now with evolution of
   persistent sepsis in the setting of multiple intra-abdominal fluid
   collections which have been addressed with drainage but with persistent
   respiratory failure and fever despite antibiotic therapy in the setting
   of hospital course complicated by V-Fib arrest.  This is in the setting
   of continued rising WBC count and we have pursued repeat imaging and
   drainage of pleural fluid without obvious evidence of acute infection
   to provide a unifying new insult to be addressed.  This leaves us with
   persistent insult of colon cancer with intra-abdominal fluid collection
   and with worsening of renal failure and persistent respiratory failure
   all making and reasonable expectation of meaningful recovery [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 9499**]
   with time.
   1)SEPSIS-This appears to be continued insult with intra-abdominal
   process and we do not have any further findings to suggest alternative
   source at this time.  Of the list of possible alternative sources the
   sinuses, central line remain possible but less likely.  Pleural
   effusion was drained and does not seem to be a primary source.  We do
   have concern for persistent collection driving picture and will have to
   consider any possible further investigations.
   -Will discuss with surgery
Gold service
   -Flagyl/Cefepime/Vanco/Fluconazole
we have > 2 weeks on Cefepime/Fluc,
   we have day #3 of Vancomycin, and we have D #6 of Flagyl
   -Will follow cultures going forward
   -In regards to CVL
site appears clean, do not have positive blood
   cultures and will maintain ongoing support pending positive blood
   cultures from the line itself.  Do not have any evidence of drainge
   from above.
   2)RESPIRATORY FAILURE-Patient with continued need for full A/C support
   and will maintain based upon favorable blood gas findings and
   acceptable PIP=26
   -Continue with A/C
   3)RENAL FAILURE-The patient has worsening renal function-
   -Will need urine lytes
   -Will need renal ultrasound
   -Will need for follow creatinine
   -Will check bladder pressure
   4) CANCER (MALIGNANT NEOPLASM), STOMACH
   -Simply need to discuss current role of malignancy and what if any
   further treatments would be possible.
   5) CARDIAC ARREST
   -Stability of rhythm maintained
   Reglan
   Abx
VRE, ESBL
   ?line
   ARF
 ScVO2, CVP, lytes, fluid, CVP, lytes, SCVO2
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   20 Gauge - [**2113-12-4**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2113-12-08 07:41:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9291**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2113-12-7**] 10:43 AM
 FEVER - 101.2
F - [**2113-12-8**] 02:00 AM
   -as per Dr [**Last Name (STitle) 906**], we changed antibiotic regimen as follows:
   1. D/C'd Vanc and added Linezolid to cover VRE
   2. D/C'd Ceftriaxone and added Meropenem (pseudomonal coverage)
   3. D/C'd fluconazole and added micafungin for broader intra-abdominal
   fungal coverage (ie C.glabrada)
   4. Kept flagyl the same for anaerobe coverage
   - [**Location (un) 906**] wants ID consult tomorrow to figure out why they didn't really
   want micafungin instead of fluconazole
   - Checked urine lytes and urine sodium was 25, CVP was 2. Then gave 1L
   fluid, urine output didn't pick up and CVP still 2.  Then gave 1 unit
   blood plus 1L NS and rechecked urine lytes.  After 1L NS, CVP was 8 but
   PEEP was 5.  Gave another 500cc NS.  CVP increased to 12.
   - As she isn't taking po meds, dc'ed metoprolol, arimidex, and
   atorvastatin - will need to be added back if she can ever take po
   - PM Hct stable at 27.2
   Allergies:
   Adhesive Tape (Topical)itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)itching;
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-5**] 12:00 PM
   Ceftazidime - [**2113-12-6**] 06:27 AM
   Cefipime - [**2113-12-7**] 05:47 AM
   Micafungin - [**2113-12-7**] 12:24 PM
   Meropenem - [**2113-12-8**] 12:45 AM
   Linezolid - [**2113-12-8**] 02:19 AM
   Metronidazole - [**2113-12-8**] 03:34 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-8**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.7
   HR: 106 (102 - 118) bpm
   BP: 117/62(82) {81/44(58) - 164/84(112)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 12 (2 - 12)mmHg
   Total In:
                                                                  5,065 mL
                                                                    591 mL
   PO:
   TF:
   IVF:
                                                                  4,648 mL
                                                                    591 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    291 mL
                                                                     75 mL
   Urine:
                                                                    191 mL
                                                                     75 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                  4,774 mL
                                                                    516 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 210 (210 - 210) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 33 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 92%
   ABG: ///19/
   Ve: 12.2 L/min
   Physical Examination
   General: intubated, sedated, not opening eyes to voice or following
   commands
   HEENT: ETT in place, having bilious emesis
   Pulmonary: decreased breath sounds at bases bilaterally, especially on
   left but no crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: More  tense and distended today. Midline incision C/D/I, JP
   drain in place with sanguinous fluid, J-tube in place. Warmth and
   erythema around J-tube.  Jtube site draining bilious fluids
   Extremities: Clean dressing in place over left central venous catheter
   site. DP and PT pulses 2+ bilaterally. LE edema improved from prior
   exam. B/L hand edema stable
   Labs / Radiology
   543 K/uL
   9.6 g/dL
   311 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.3 mEq/L
   69 mg/dL
   110 mEq/L
   142 mEq/L
   30.0 %
   19.4 K/uL
        [image002.jpg]
                            [**2113-12-5**]  03:36 AM
                            [**2113-12-5**]  03:53 AM
                            [**2113-12-6**]  12:35 AM
                            [**2113-12-6**]  03:42 AM
                            [**2113-12-6**]  03:54 AM
                            [**2113-12-6**]  04:12 PM
                            [**2113-12-7**]  05:41 AM
                            [**2113-12-7**]  05:50 AM
                            [**2113-12-7**]  02:43 PM
                            [**2113-12-8**]  05:24 AM
   WBC
   22.5
   22.1
   21.0
   19.9
   19.4
   Hct
   29.0
   27.8
   28.2
   26.5
   27.1
   27.2
   30.0
   Plt
   [**Telephone/Fax (3) 9524**]52
   543
   Cr
   1.7
   2.3
   2.5
   2.8
   3.0
   3.1
   TCO2
   26
   23
   27
   Glucose
   149
   119
   209
   143
   115
   311
   Other labs: PT / PTT / INR:15.7/37.5/1.4, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:[**11-6**], Alk Phos / T Bili:230/1.4,
   Amylase / Lipase:41/22, Differential-Neuts:92.4 %, Band:0.0 %,
   Lymph:3.3 %, Mono:2.4 %, Eos:1.6 %, Lactic Acid:0.8 mmol/L, Albumin:1.8
   g/dL, LDH:993 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   74 yo F w/ recently dx gastric adeno CA, s/p resection, transferred
   from [**Hospital3 4838**] for esophageal stenting, initially admitted to
   [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then extubated and
   called out to medical floor.  Readmitted to MICU s/p pulseless VT/VF
   arrest, then dx w/ splenic laceration requiring massive transfusion and
   splenic artery embolization.
   .
   1. RESPIRATORY FAILURE: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations.
   - Check lytes tid and replete for K>4, Mg > 2
   -Continue volume-controlled mechanical ventilation at current settings
   -Hold Lasix in the setting of hypotension
   -Re-assess meds that may make contribute to patient agitaion and
   discomfort.
   2. SEPSIS (Fever, Leukocytosis, Hypotension)- source unclear, likely
   intra-abdominal source, however other sources like infected CVL and
   sinuses are possible, but much less likely.
   -- f/u all outsdtanding Urine, Blood, Sputum, pleural fluid Cx
   -- f/u pleural fluid studies
   --Will add Meropenem, Linezolid and Micofungin (d/c Vancomycin and
   Fluconazole) to broaden coverage to ESBL Klebsiella, VRE and broaded
   antifungal coverage.
   --IVF boluses as needed for MAP>65, re-start Levophed if necessary
   --Trend CVP
   3.  Splenic artery laceration s/p embolization by IR: Hct appears
   stable at this point.
   -- f/u IR and surgery recommendations
   -- f/u Hct [**Hospital1 **]
   -- Transfuse for Hct<26
   -- Maintain active T+S with multiple units crossed
   -- Consider repeat tagged RBC scan if Hct continues to trend down
   4. HYPERNATREMIA- resolved, continue to monitor [**Hospital1 **]
   5. s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD, so there is concern for an
   ischemic event as an etiology.
   -- Monitor on telemetry: no ectopy today
   -- f/u cardiology recs
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- Holding Metoprolol in the setting of hypotension
   -- continue Atorvastatin
   -- maintain K>4, Mg>2
   6. Acute renal failure: RF continues to worsen, likely ATN secondary to
   sepsis/ hypotension vs. contrast-induced nephropathy
   --send Urine lytes prior to and after fluid challenge
   --Assess urine sediment
   --Renal consult.
   --Monitor bladder pressures
   -- monitor urine output, trend Cr
   -- maintain renal perfusion
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds.
   -- Continue IV Reglan for vomiting
   -- start TPN, no tube feeds
   -- f/u GI and surgery recs
   .
   # HTN:
   --hold metoprolol given hypotension
   -- holding Diovan in setting of ARF and recent bleeding
   .
   # h/o breast CA
   -- continue Arimidex
   #Goals of care
   --Ongoing discussion with the family
   --Discuss pain management with increased doses of Fentanyl
   ICU Care
   Nutrition: NPO, hold tube feeds, TPN consult
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   20 Gauge - [**2113-12-4**] 03:00 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with family
   Code status: DNR (do not resuscitate) do not re-intubate
   Disposition: [**Hospital Unit Name 10**]

2113-12-08 11:22:00 Physician Attending Progress Note
CRITICAL CARE ATTENDING
   Chief Complaint: respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2113-12-7**] 10:43 AM
 FEVER - 101.2
F - [**2113-12-8**] 02:00 AM
   Fluid challenge with increase in CVP but no major change in UOP.
   Patient unable to provide history: Sedated
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2113-12-5**] 12:00 PM
   Ceftazidime - [**2113-12-6**] 06:27 AM
   Cefipime - [**2113-12-7**] 05:47 AM
   Micafungin - [**2113-12-7**] 12:24 PM
   Meropenem - [**2113-12-8**] 12:45 AM
   Linezolid - [**2113-12-8**] 02:19 AM
   Metronidazole - [**2113-12-8**] 03:34 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-8**] 08:38 AM
   Other medications:
   micafungin, meropenem, linezolid, versed, MDIs, flagyl, CHG, SQI,
   fentanyl, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-8**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 110 (102 - 118) bpm
   BP: 98/55(70) {88/49(64) - 164/84(112)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 12 (2 - 12)mmHg
   Total In:
                                                                  5,065 mL
                                                                    643 mL
   PO:
   TF:
   IVF:
                                                                  4,648 mL
                                                                    643 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    291 mL
                                                                     95 mL
   Urine:
                                                                    191 mL
                                                                     95 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                  4,774 mL
                                                                    548 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 210 (210 - 210) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 94%
   ABG: ///19/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, feeding tube and JP drain
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.6 g/dL
   543 K/uL
   311 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.3 mEq/L
   69 mg/dL
   110 mEq/L
   142 mEq/L
   30.0 %
   19.4 K/uL
        [image002.jpg]
                            [**2113-12-5**]  03:36 AM
                            [**2113-12-5**]  03:53 AM
                            [**2113-12-6**]  12:35 AM
                            [**2113-12-6**]  03:42 AM
                            [**2113-12-6**]  03:54 AM
                            [**2113-12-6**]  04:12 PM
                            [**2113-12-7**]  05:41 AM
                            [**2113-12-7**]  05:50 AM
                            [**2113-12-7**]  02:43 PM
                            [**2113-12-8**]  05:24 AM
   WBC
   22.5
   22.1
   21.0
   19.9
   19.4
   Hct
   29.0
   27.8
   28.2
   26.5
   27.1
   27.2
   30.0
   Plt
   [**Telephone/Fax (3) 9524**]52
   543
   Cr
   1.7
   2.3
   2.5
   2.8
   3.0
   3.1
   TCO2
   26
   23
   27
   Glucose
   149
   119
   209
   143
   115
   311
   Other labs: PT / PTT / INR:15.7/37.5/1.4, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:[**11-6**], Alk Phos / T Bili:230/1.4,
   Amylase / Lipase:41/22, Differential-Neuts:92.4 %, Band:0.0 %,
   Lymph:3.3 %, Mono:2.4 %, Eos:1.6 %, Lactic Acid:0.8 mmol/L, Albumin:1.8
   g/dL, LDH:993 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   74-year-old woman with
          Respiratory failure
          Acute renal failure
          Hypotension
          Fever and ?sepsis
          s/p VF arrest
          complicated intra-abdominal pathology (partial gastrectomy
   with a nastomic leak s/p esophageal stent, splenic hemorrhage s/p
   coiling, etc.)
   She continues to spike fevers and have relatively high-grade
   leucocytosis in spite of rx with vanco, cefepime, flagyl.  We switched
   yesterday to cover VRE, ESBL, and fluconazole-resistant [**Female First Name (un) **].  Have
   discussed with surgery and they feel no anatomic intervention is needed
   at this point.  Oliguria remains significant and creatinine remains
   quite abnormal.  Although non-infectious causes are possible, infection
   seems most likely except potentially for splenic hematoma.  Other
   issues as per ICU team note today.
   Prognosis is dire.  Will meet with family today.
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   20 Gauge - [**2113-12-4**] 03:00 PM
   Prophylaxis:
   DVT: Boots(no SQH at present due to massive recent bleed)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2113-12-09 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2113-12-7**]
   -as per Dr [**Last Name (STitle) 906**], we changed antibiotic regimen as follows:
   1. D/C'd Vanc and added Linezolid to cover VRE
   2. D/C'd Ceftriaxone and added Meropenem (pseudomonal coverage)
   3. D/C'd fluconazole and added micafungin for broader intra-abdominal
   fungal coverage (ie C.glabrada)
   4. Kept flagyl the same for anaerobe coverage
   - [**Location (un) 906**] wants ID consult tomorrow to figure out why they didn't really
   want micafungin instead of fluconazole
   - Checked urine lytes and urine sodium was 25, CVP was 2. Then gave 1L
   fluid, urine output didn't pick up and CVP still 2.  Then gave 1 unit
   blood plus 1L NS and rechecked urine lytes.  After 1L NS, CVP was 8 but
   PEEP was 5.  Gave another 500cc NS.  CVP increased to 12.
   - As she isn't taking po meds, dc'ed metoprolol, arimidex, and
   atorvastatin - will need to be added back if she can ever take po
   - PM Hct stable at 27.2
   ----------------------------------------------------------------
   [**2113-12-8**]
   -family leaning more towards CMO status, but at this point, continue
   current management, want to see if there is progress w/ abx ?
   -cytology from pleural fluid negative for malignant cells
   -blood sugars running high, started insulin gtt
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-12-7**] 05:47 AM
   Meropenem - [**2113-12-8**] 12:10 PM
   Micafungin - [**2113-12-8**] 12:39 PM
   Linezolid - [**2113-12-9**] 02:04 AM
   Metronidazole - [**2113-12-9**] 03:05 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-8**] 08:38 AM
   Midazolam (Versed) - [**2113-12-9**] 04:30 AM
   Fentanyl - [**2113-12-9**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 114 (102 - 125) bpm
   BP: 113/61(79) {94/51(66) - 140/77(99)} mmHg
   RR: 22 (19 - 25) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 13 (7 - 13)mmHg
   Total In:
                                                                  2,951 mL
                                                                    983 mL
   PO:
   TF:
   IVF:
                                                                  1,398 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                    237 mL
                                                                     65 mL
   Urine:
                                                                    207 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                  2,714 mL
                                                                    918 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 90%
   ABG: ///17/
   Ve: 10.7 L/min
   Physical Examination
   General: intubated, sedated, not opening eyes to voice or following
   commands
   HEENT: ETT in place, having bilious emesis
   Pulmonary: decreased breath sounds at bases bilaterally, especially on
   left but no crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: More  tense and distended today. Midline incision C/D/I, JP
   drain in place with sanguinous fluid, J-tube in place. Warmth and
   erythema around J-tube.  Jtube site draining bilious fluids
   Extremities: Clean dressing in place over left central venous catheter
   site. DP and PT pulses 2+ bilaterally. LE edema improved from prior
   exam. B/L hand edema stable
   Labs / Radiology
   540 K/uL
   9.6 g/dL
   322 mg/dL
   3.9 mg/dL
   17 mEq/L
   4.3 mEq/L
   94 mg/dL
   107 mEq/L
   136 mEq/L
   29.9 %
   22.8 K/uL
        [image002.jpg]
                            [**2113-12-6**]  12:35 AM
                            [**2113-12-6**]  03:42 AM
                            [**2113-12-6**]  03:54 AM
                            [**2113-12-6**]  04:12 PM
                            [**2113-12-7**]  05:41 AM
                            [**2113-12-7**]  05:50 AM
                            [**2113-12-7**]  02:43 PM
                            [**2113-12-8**]  05:24 AM
                            [**2113-12-8**]  04:33 PM
                            [**2113-12-9**]  05:31 AM
   WBC
   22.1
   21.0
   19.9
   19.4
   22.8
   Hct
   27.8
   28.2
   26.5
   27.1
   27.2
   30.0
   28.8
   29.9
   Plt
   467
   505
   552
   543
   540
   Cr
   2.3
   2.5
   2.8
   3.0
   3.1
   3.9
   TCO2
   23
   27
   Glucose
   119
   209
   143
   115
   311
   322
   Other labs: PT / PTT / INR:15.7/36.4/1.4, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:[**8-4**], Alk Phos / T Bili:210/1.0,
   Amylase / Lipase:49/38, Differential-Neuts:91.3 %, Band:0.0 %,
   Lymph:4.5 %, Mono:2.4 %, Eos:1.6 %, Lactic Acid:0.8 mmol/L, Albumin:1.8
   g/dL, LDH:993 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   74 yo F w/ recently dx gastric adeno CA, s/p resection, transferred
   from [**Hospital3 4838**] for esophageal stenting, initially admitted to
   [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then extubated and
   called out to medical floor.  Readmitted to MICU s/p pulseless VT/VF
   arrest, then dx w/ splenic laceration requiring massive transfusion and
   splenic artery embolization.
   .
   1. RESPIRATORY FAILURE: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations.
   - Check lytes tid and replete for K>4, Mg > 2
   -Continue volume-controlled mechanical ventilation at current settings,
   pt cannot tolerate PS
   -Hold Lasix in the setting of hypotension
   -Re-assess meds that may make contribute to patient agitaion and
   discomfort. D/C
d Reglan
   2. SEPSIS (Fever, Leukocytosis, Hypotension)- source unclear, likely
   intra-abdominal source, however other sources like infected CVL and
   sinuses are possible, but much less likely.
   -- f/u all outsdtanding Urine, Blood, Sputum, pleural fluid Cx
   -- f/u pleural fluid studies
   --continue  Meropenem, Linezolid and Micofungin to broaden coverage to
   ESBL Klebsiella, VRE and broaded antifungal coverage.
   -- continue flagyl
   --IVF boluses as needed for MAP>65
   --Trend CVP
   3.  Splenic artery laceration s/p embolization by IR: Hct appears
   stable at this point after transfusion 1uPRBC overnight.
   -- f/u Hct [**Hospital1 **]
   -- Transfuse for Hct<26
   -- Maintain active T+S with multiple units crossed
   4. s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD, so there is concern for an
   ischemic event as an etiology.
   -- Monitor on telemetry: no ectopy today
   -- f/u cardiology recs
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- Holding Metoprolol in the setting of hypotension
   -- continue Atorvastatin
   -- maintain K>4, Mg>2
   6. Acute renal failure: RF continues to worsen, likely ATN secondary to
   sepsis/ hypotension vs. contrast-induced nephropathy
   --send Urine lytes prior to and after fluid challenge
   --Assess urine sediment
   --Renal consult.
   --Monitor bladder pressures
   -- monitor urine output, trend Cr
   -- maintain renal perfusion
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds.
   -- Continue IV Reglan for vomiting
   -- start TPN, no tube feeds
   -- f/u GI and surgery recs
   #Goals of care
   --Ongoing discussion with the family
   --Discuss pain management with increased doses of Fentanyl
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   20 Gauge - [**2113-12-4**] 03:00 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with family
   Code status: DNR (do not resuscitate) do not re-intubate
   Disposition: [**Hospital Unit Name 10**]

2113-12-09 09:26:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2113-12-8**] 10:47 PM
 FEVER - 101.2
F - [**2113-12-8**] 12:00 PM
   -ABX changed to Linezolid, Meropenem, Micafungin
   -Fever has persisted across time
   -Cytology from pleural fluid negative for malignant cells.
   -Insulin gtt started for persistent hyperglycemia
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2113-12-7**] 05:47 AM
   Meropenem - [**2113-12-8**] 12:10 PM
   Micafungin - [**2113-12-8**] 12:39 PM
   Linezolid - [**2113-12-9**] 02:04 AM
   Metronidazole - [**2113-12-9**] 03:05 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Fentanyl - [**2113-12-9**] 04:30 AM
   Midazolam (Versed) - [**2113-12-9**] 04:30 AM
   Pantoprazole (Protonix) - [**2113-12-9**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley
   Flowsheet Data as of  [**2113-12-9**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.7
   HR: 119 (102 - 125) bpm
   BP: 103/53(68) {94/51(66) - 140/77(99)} mmHg
   RR: 23 (19 - 25) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 6 (6 - 13)mmHg
   Total In:
                                                                  2,951 mL
                                                                  1,131 mL
   PO:
   TF:
   IVF:
                                                                  1,398 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                    237 mL
                                                                     85 mL
   Urine:
                                                                    207 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                  2,714 mL
                                                                  1,046 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 90%
   ABG: ///17/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: Diffuse)
   Abdominal: Soft, Non-tender, Continued drainage at J-tube and with
   intermittent bilious vomit
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   540 K/uL
   322 mg/dL
   3.9 mg/dL
   17 mEq/L
   4.3 mEq/L
   94 mg/dL
   107 mEq/L
   136 mEq/L
   29.9 %
   22.8 K/uL
        [image002.jpg]
                            [**2113-12-6**]  12:35 AM
                            [**2113-12-6**]  03:42 AM
                            [**2113-12-6**]  03:54 AM
                            [**2113-12-6**]  04:12 PM
                            [**2113-12-7**]  05:41 AM
                            [**2113-12-7**]  05:50 AM
                            [**2113-12-7**]  02:43 PM
                            [**2113-12-8**]  05:24 AM
                            [**2113-12-8**]  04:33 PM
                            [**2113-12-9**]  05:31 AM
   WBC
   22.1
   21.0
   19.9
   19.4
   22.8
   Hct
   27.8
   28.2
   26.5
   27.1
   27.2
   30.0
   28.8
   29.9
   Plt
   467
   505
   552
   543
   540
   Cr
   2.3
   2.5
   2.8
   3.0
   3.1
   3.9
   TCO2
   23
   27
   Glucose
   119
   209
   143
   115
   311
   322
   Other labs: PT / PTT / INR:15.7/36.4/1.4, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:[**8-4**], Alk Phos / T Bili:210/1.0,
   Amylase / Lipase:49/38, Differential-Neuts:91.3 %, Band:0.0 %,
   Lymph:4.5 %, Mono:2.4 %, Eos:1.6 %, Lactic Acid:0.8 mmol/L, Albumin:1.8
   g/dL, LDH:993 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: [**Doctor First Name **]/LIP-nl
   Imaging: CXR-ETT at 1.7cm--large right sided effusion noted.
   EKG
Patient with Atrial Trigem noted, she had AVRT last PM.
   Microbiology: JP Drain-[**12-7**]--4 + GNR's
   Assessment and Plan
   74 yo female with gastic CA and s/p partial gastrectomy who now has
   persistent respiratory failure, sepsis and renal failure.  We have had
   ongoing discussions with family and have considered maintaining full
   aggressive measures as long as chance of meaningful recovery persists.
   We have had full change in antibiotic therapy 48 hours ago with
   persistent fevers noted.  In this setting we have continued and
   worsening renal function noted with creatinine now approaching 4.0
   despite aggressive fluid support and she remains oliguric.
   1)RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
Patient with
   continued rise in Cr despite volume support, although, we do have both
   sepsis and hypotension contributing.  This has appearance of ATN based
   upon clinical picture with dye load required with CT scan to evaluate
   for definative treatment approach for intra-abdominal source of
   infection perhaps providing transient insult.
   -Will continue to support blood pressure
   -HCO3- as needed
   -Bladder pressure to be checked today although interventions are
   limited
   2)Respiratory Failure-
   -Continue with A/C support
   -Follow ABG for titration of treatment
current settings acceptable
   3)Sepsis-Likely persistent intra-abdominal source.  Antibiotics broadly
   expanded further 2 days ago.  Do have continued slow drainage.  ID
   consulted and agreement with antibiotics provided.  Will continue with
   current course of treatment.
   -[**Last Name (un) 1540**]/Micafungin/Linezolid/Flagyl
   -Patient with overwhelming volume overload and use pressors as needed
   4)Tachycardia
likely related to current overwhelming sepsis.
   -Follow lytes
   -PRN rate control only
   5)GI tract obstruction/ileus
we see continued return of bilious
   material from oral cavity and have concern for ongoing limited motility
   of GI tract
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2113-12-8**] 06:15 PM 66.[**Telephone/Fax (3) 1255**] mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Son and husband given full update and
   concerning worsening renal function and persistent fevers and sepsis
   all of significant concern for clinical worsening and making return to
   her independent life not medically likely.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2113-12-10 07:34:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -IR suggested pulling JP drain
   -RR increased to 18 on the vent with pm ABG: 7.34/35/79/20/-5, Lactate
   1.2
   -Switched to IV Vanc from IV Linezolid per ID recs, also recommended
   meropenem/micafungin
   -Sent C. diff
   -Added JP culture to Gram stain
   -Received 3 boluses x 500 cc each for hypotension
   -STAT Hct send as PM Hct down to 27.3 from 29.9 and pt. continued to be
   hypotensive
   - Febrile to 101.5 [**2113-12-9**] 12:00 PM
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Micafungin - [**2113-12-9**] 12:33 PM
   Linezolid - [**2113-12-9**] 02:41 PM
   Vancomycin - [**2113-12-9**] 08:00 PM
   Meropenem - [**2113-12-10**] 12:00 AM
   Metronidazole - [**2113-12-10**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-12-9**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-12-10**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.4
C (99.3
   HR: 115 (108 - 141) bpm
   BP: 136/68(89) {85/47(58) - 136/69(89)} mmHg
   RR: 23 (21 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 65 kg
   Height: 64 Inch
    CVP: 12 (6 - 12)mmHg
   Bladder pressure: 21 (21 - 21) mmHg
   Total In:
                                                                  4,854 mL
                                                                  1,803 mL
   PO:
   TF:
   IVF:
                                                                  3,312 mL
                                                                  1,309 mL
   Blood products:
   Total out:
                                                                    153 mL
                                                                     82 mL
   Urine:
                                                                    153 mL
                                                                     47 mL
   NG:
   Stool:
   Drains:
                                                                     35 mL
   Balance:
                                                                  4,701 mL
                                                                  1,721 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 15 cmH2O
   Plateau: 21 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/36/89.[**Numeric Identifier 433**]/19/-6
   Ve: 10 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General: intubated, sedated, not opening eyes to voice or following
   commands
   HEENT: ETT in place, having bilious emesis
   Pulmonary: diffusely rhonchouse breath sounds, no crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: continues to be  tense and distended today. Midline incision
   C/D/I, JP drain in place with sanguinous fluid, J-tube in place. Warmth
   and erythema around J-tube.  Jtube site draining bilious fluids
   Extremities: Clean dressing in place over central venous catheter site.
   DP and PT pulses 2+ bilaterally. LE edema improved from prior exam. B/L
   hand edema stable
   Labs / Radiology
   552 K/uL
   8.5 g/dL
   76 mg/dL
   3.6 mg/dL
   19 mEq/L
   3.9 mEq/L
   105 mg/dL
   109 mEq/L
   138 mEq/L
   26.5 %
   20.4 K/uL
        [image002.jpg]
                            [**2113-12-7**]  05:50 AM
                            [**2113-12-7**]  02:43 PM
                            [**2113-12-8**]  05:24 AM
                            [**2113-12-8**]  04:33 PM
                            [**2113-12-9**]  05:31 AM
                            [**2113-12-9**]  09:02 AM
                            [**2113-12-9**]  03:07 PM
                            [**2113-12-9**]  03:21 PM
                            [**2113-12-10**]  12:50 AM
                            [**2113-12-10**]  12:54 AM
   WBC
   19.4
   22.8
   19.3
   20.4
   Hct
   27.2
   30.0
   28.8
   29.9
   27.3
   26.5
   Plt
   543
   540
   577
   552
   Cr
   3.0
   3.1
   3.9
   3.8
   3.6
   TCO2
   27
   19
   20
   20
   Glucose
   115
   311
   322
   145
   76
   Other labs: PT / PTT / INR:16.9/38.3/1.5, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:[**9-1**], Alk Phos / T Bili:168/1.2,
   Amylase / Lipase:53/20, Differential-Neuts:91.3 %, Band:0.0 %,
   Lymph:4.5 %, Mono:2.4 %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, Albumin:1.6
   g/dL, LDH:903 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
[**2113-12-7**] 10:30 am FLUID,OTHER      JP DRAIN FLUID.
      CULTURE ADDED PER REQUEST DR [**Last Name (STitle) **], ALXENADER.
   GRAM STAIN (Final [**2113-12-7**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
      FLUID CULTURE (Pending):
   Assessment and Plan
   74 yo F w/ recently dx gastric adeno CA, s/p resection, transferred
   from [**Hospital3 4838**] for esophageal stenting, initially admitted to
   [**Hospital Unit Name 10**] for respiratory failure [**2-13**] pulmonary edema, then extubated and
   called out to medical floor.  Readmitted to MICU s/p pulseless VT/VF
   arrest, then dx w/ splenic laceration requiring massive transfusion and
   splenic artery embolization.
   .
   1. RESPIRATORY FAILURE: Pt has now been intubated 5 times (1)
   hematemasis 2) respiratory distress 3) for ERCP 4)respiratory distress
   following extubation 5) code blue/cardiac arrest with feeble
   respirations.
   - Continue volume-controlled mechanical ventilation at current
   settings, pt cannot tolerate PS
   - Continue to hold Lasix in the setting of hypotension
   - Re-assess meds that may make contribute to patient agitaion and
   discomfort. D/C
d Reglan
   2. SEPSIS (Fever, Leukocytosis, Hypotension) - JP fluid culture with 4+
   GNRs.  Continues to have sepsis-like picture and most likely due to
   intra-abdominal source.  Also could consider infected central venous
   lines, DVT, sinuses, aspiration pneumonitis.
   -- f/u all outstanding Urine, Blood, Sputum,JP drain  fluid Cx
   --continue  Meropenem, and Micofungin for broad coverage including ESBL
   Klebsiella, VRE and antifungal coverage, now have switched to
   Vancomycin (no longer on Linezolid)
   -- continue Flagyl
   -- IVF boluses as needed for MAP>65, consider giving blood as Hct 26.5
   -- Trend CVP
   -- f/u ID recs
   -- will switch IJ to subclavian line
   -- add C Diff
   -- consider lower extremity ultrasound to r/o DVT although less likely
   to cause hypotension/leukocytosis
   3.  Splenic artery laceration s/p embolization by IR: Hct appears
   stable at this point.
   -- trend Hct
   -- Transfuse for Hct<26
   -- Maintain active T+S
   4. s/p cardiac arrest/probable CAD -- No known cardiac history but echo
   with LV systolic dysfunction c/w CAD but most likely events were due to
   underlying disease.  Telemetry with episodes of atrial trigeminy and
   bigeminy.
   -- Monitor on telemetry
   -- holding ASA, [**Last Name (un) 284**] in the setting of recent massive bleeding
   -- Holding Metoprolol in the setting of hypotension
   -- holding Atorvastatin due to NPO status
   -- maintain K>4, Mg>2
   6. Acute renal failure: Renal function stable at this time, likely ATN
   secondary to sepsis/ hypotension vs. contrast-induced nephropathy
   --Monitor bladder pressures
   -- monitor urine output, trend Cr
   -- maintain renal perfusion with IVF as necessary
   -- Follow lytes, ABG.  Consider bicarb if more acidotic.
   .
   # s/p gastrectomy complicated by anastamotic leak s/p stenting:
   Episodes of emesis after initiation of tube feeds.
   -- continue TPN, no tube feeds
   -- f/u GI and surgery recs
   #Goals of care
 Ongoing discussion with the family
   - Will meet with family today
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2113-12-9**] 07:06 PM 66.[**Telephone/Fax (3) 1255**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   22 Gauge - [**2113-12-9**] 01:05 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with family
   Code status: DNR (do not resuscitate) do not re-intubate
   Disposition: [**Hospital Unit Name 10**]

2113-12-10 12:53:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.5
F - [**2113-12-9**] 12:00 PM
   -JP drain continued
   -RR increased in vent with ABG 7.34/34/79
   -ID suggested change to Vancomycin for 21 days for MRSA PNA
   -Hypotension noted with IVF bolus required for stabilization of blood
   pressures.
   -Bladder pressure=21
   Allergies:
   Adhesive Tape (Topical)
   itching;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Micafungin - [**2113-12-9**] 12:33 PM
   Linezolid - [**2113-12-9**] 02:41 PM
   Vancomycin - [**2113-12-9**] 08:00 PM
   Meropenem - [**2113-12-10**] 12:00 AM
   Metronidazole - [**2113-12-10**] 10:40 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.8
   Flowsheet Data as of  [**2113-12-10**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 119 (108 - 141) bpm
   BP: 130/72(90) {85/47(58) - 136/72(90)} mmHg
   RR: 23 (21 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.4 kg (admission): 65 kg
   Height: 64 Inch
   CVP: 15 (9 - 15)mmHg
   Total In:
                                                                  4,854 mL
                                                                  2,305 mL
   PO:
   TF:
   IVF:
                                                                  3,312 mL
                                                                  1,476 mL
   Blood products:
   Total out:
                                                                    153 mL
                                                                    136 mL
   Urine:
                                                                    153 mL
                                                                    101 mL
   NG:
   Stool:
   Drains:
                                                                     35 mL
   Balance:
                                                                  4,701 mL
                                                                  2,169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.33/36/89.[**Numeric Identifier 433**]/19/-6
   Ve: 11.5 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Bilious drainage
   from oral cavity
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   552 K/uL
   76 mg/dL
   3.6 mg/dL
   19 mEq/L
   3.9 mEq/L
   105 mg/dL
   109 mEq/L
   138 mEq/L
   26.5 %
   20.4 K/uL
        [image002.jpg]
                            [**2113-12-7**]  05:50 AM
                            [**2113-12-7**]  02:43 PM
                            [**2113-12-8**]  05:24 AM
                            [**2113-12-8**]  04:33 PM
                            [**2113-12-9**]  05:31 AM
                            [**2113-12-9**]  09:02 AM
                            [**2113-12-9**]  03:07 PM
                            [**2113-12-9**]  03:21 PM
                            [**2113-12-10**]  12:50 AM
                            [**2113-12-10**]  12:54 AM
   WBC
   19.4
   22.8
   19.3
   20.4
   Hct
   27.2
   30.0
   28.8
   29.9
   27.3
   26.5
   Plt
   543
   540
   577
   552
   Cr
   3.0
   3.1
   3.9
   3.8
   3.6
   TCO2
   27
   19
   20
   20
   Glucose
   115
   311
   322
   145
   76
   Other labs: PT / PTT / INR:16.9/38.3/1.5, CK / CKMB /
   Troponin-T:54/3/0.03, ALT / AST:[**9-1**], Alk Phos / T Bili:168/1.2,
   Amylase / Lipase:53/20, Differential-Neuts:91.3 %, Band:0.0 %,
   Lymph:4.5 %, Mono:2.4 %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, Albumin:1.6
   g/dL, LDH:903 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR-ETT and CVl in good position, persistence of effusions and
   persistence of interstitial edema.
   Assessment and Plan
   74 yo female with gastic CA and s/p partial gastrectomy who now has
   persistent respiratory failure and renal failure and hypotension with
   likely persistence of intra-abdominal source but with continued
   drainage.  Concern for aspiration in the setting of continued absence
   of significant movement of GI tract forward is of substantial concern
   as well.  With continued fevers will have to consider line changes for
   persistent fevers at this time as well.
   1)Respiratory Failure-
   -Albuterol/Atrovent
   -Continue with A/C support and FIO2 at current levels
   -Concerning for pulmonary edema
   -Will return to diuresis as blood pressure stabilizes
   -Patient now on day #9 of intubation
   2)Sepsis-
   -Micafungin/Meropenem/Vancomycin in place
   -Will re-site CVL today given persistent fevers and absence of new
   source seen
   -Appreciate all the input from ID consultants
   -GNR
s from JP drain are of concern but we do have ongoing drainage
   -Will work to minimize aspiration of GI contents
   3)Renal Failure-We have creatinine improving modestly but urine output
   has remained minimal.  With volume support we do have concern for
   volume overload at this time which would lead to need for consideration
   of dialysis.
   -Follow urine output
   -Follow creatinine
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2113-12-9**] 07:06 PM 66.[**Telephone/Fax (3) 1255**] mL/hour
will work
   with pro-motility [**Doctor Last Name 23**] of po narcan today in addition to Reglan if
   agreed to in terms of surgery team
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-28**] 06:35 PM
   Multi Lumen - [**2113-11-28**] 06:35 PM
   22 Gauge - [**2113-12-9**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes